2190-11-01 05:58:00 Physician Resident Progress Note
Chief Complaint: 69 yom  with h/o CAD s/p CABG, AF on coumadin, DM-II
   presenting to ED with acute onset of flank pain.  Workup in the ED
   revealed right kidney with intraparenchymal and subcapsular
   hemorrhage.  Since admission to the floor, he has received a total of 3
   units PRBC's and 6 units FFP in attempt to support patient and reverse
   INR.  Patients urine output has continued to fall and he remains
   minimally responsive to high dose Lasix bolluses.  Patient also began
   to experience asymptomatic episodes of wide complex, irregular
   tachycardia with alternating axis
   24 Hour Events:
   - CT abd/pelvis: no significant change from prior study, areas of
   subcapsular and intraparenchymal hemorrhage without sig. increase in RP
   hematoma, small right pleural effusion, increased opacity at left lung
   base c/w atelectasis vs. aspiration
   - renal recs: urine sediment c/w ATN, dose meds for GFR = 0, agree w/
   diuretic trial
   - urology recs: reverse INR, f/u CT on Monday, follow serial HCT, will
   require MR in 3 months for further evaluation
   - bladder pressure inc. to 21 (stable), general surgery contact[**Name (NI) **] which
   reports no intervention unless > 30
   - HCT  trends down: 38.6 -> 29.5 -> 27.0 -> 25.3 -> 20.2 (1 unit) ->
   21.0 (2 units)-> 26.2 = 3 units total
   - INR trends down: 2.5 -> 2.3 -> 2.4 -> 2.2 -> 1.8 = 6 units FFP
   - Lasix boluses 80mg then 120 mg with UOP around 30 cc/hr
   - episode of wide complex, irregular tachycardia with shifting axis,
   electrolytes normal, patient asymptomatic and exam unremarkable, VSS,
   cardiac enzymes cycled and 1st set normal
   - TTE: suboptimal quality do to body habitus, low normal LVEF
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-10-31**] 08:05 PM
   Furosemide (Lasix) - [**2190-10-31**] 10:32 PM
   Hydromorphone (Dilaudid) - [**2190-11-1**] 03:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-1**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.4
C (99.3
   HR: 99 (82 - 105) bpm
   BP: 98/53(64) {88/47(60) - 135/71(85)} mmHg
   RR: 16 (14 - 28) insp/min
   SpO2: 92%
   Heart rhythm: V Paced
    Bladder pressure: 21 (21 - 21) mmHg
   Total In:
                                                                  2,084 mL
                                                                     15 mL
   PO:
                                                                    270 mL
   TF:
   IVF:
                                                                     10 mL
   Blood products:
                                                                  1,774 mL
                                                                     15 mL
   Total out:
                                                                    342 mL
                                                                    235 mL
   Urine:
                                                                    342 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,742 mL
                                                                   -220 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 92%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   122 K/uL
   8.9 g/dL
   244 mg/dL
   5.8 mg/dL
   19 mEq/L
   5.3 mEq/L
   69 mg/dL
   105 mEq/L
   139 mEq/L
   26.2 %
   12.1 K/uL
        [image002.jpg]
                             [**2190-10-31**]  04:47 AM
                             [**2190-10-31**]  12:28 PM
                             [**2190-10-31**]  06:09 PM
                             [**2190-11-1**]  01:55 AM
   WBC
   13.9
   12.1
   Hct
   25.3
   20.2
   21.0
   26.2
   Plt
   158
   122
   Cr
   4.5
   5.0
   5.3
   5.8
   TropT
   0.02
   0.02
   0.03
   0.06
   Glucose
   265
   255
   244
   Other labs: PT / PTT / INR:20.1/28.6/1.9, CK / CKMB /
   Troponin-T:228/7/0.06, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:5.6 mg/dL
   Microbiology
   - urine [**10-30**] and [**10-31**]
 pending
   - blood 10/4
 pending
   - MRSA [**10-31**]
 pending
   Imaging
   - CXR [**10-31**]
 mild bibasilar atelectasis, tiny right pleural effusion
   - CT abdomen pelvos [**10-31**]
 see above
   Assessment and Plan
   This is a 69yo man with history of CABG, atrial fibrillation with
   pacer/defibrillator on coumadin, systolic CHF (most recent echo in
   69 yom with hx of CAD s/p CABG, AF on coumadin with pacer a/w acute
   hemorrhage of right kidney, hypoxia and r/o AMI.
   ## Retroperitoneal Bleed: patient with intraparrenchymal / subcapsular
   bleed of right kidney of unknown etiology.  Bleed appears stable with
   serial imaging.  Falling urine output and rising Cr (2.3 to 5.8) likely
   causing ATN via poor perfusion and ARF.  Patient is now s/p 3 units
   PRBC
s and 6 units FFP to help support hemodynamics and reverse INR.
   - repeat CT scan this AM to evaluate for interval change
   - q 8  HCT w/ PRBC transfusion for goal > 25 and FFP transfusion for
   goal < 1.9
   - hold ASA and coumadin
   ## Acute on Chronic Renal Failure: patient with marginal UOP s/p Lasix
   bolus, rising Cr and sediment c/w ATN
   - hold Lasix bolus for now considering rising Cr
   - f/u renal re: management of progressive ARF w/ poor UOP in the
   setting of intraparenchymal hemorrhage
   - renally dose all medications
   (#) Hypoxia: improving; patient already down to 6LNC in the ICU.
   Evidence of volume overload on CXR.  Patient also had emesis and,
   though he is not at especially high risk, may have had an aspiration
   event.  He has not gotten an extra large amount of volume aside from
   the 4 units total of FFP.  He has now received lasix 20, then 40 mg IV
   though is urine output is only 20 cc over the last three to four
   hours.  (Of note, he did have 300 cc urine recorded in flow sheet at 11
   pm last night.)  Despite to putting out urine, the patient does report
   feeling better.  Low suspicion for PE or other pathology.
   -- cont to wean oxygen and diurese as tolerated
   -- aspiration precautions if he continues to vomit
   -- antiemetics PRN
   .
   (#) POSSIBLE UGIB: Pt had episode of guaiaic positive emesis in context
   of severe cough and post-tussive emesis.  Has been nauseaus since
   admission likely from RP bleed.  Pt has no h/o ETOH abuse, liver
   disease which would be concerning for ascities.  no known ulcer
   disease; denies upper bleed such as epistaxis and dental bleeding.
   - NPO; IV PPI [**Hospital1 7**]
   - maintain active T&S
   - Maintain Hct > 25 given large degree of drop from baseline (though
   possibly hemoconcentrated on admission)
   - possible GI c/s re: UGI
   .
   (#) Retroperitoneal bleed: Differential diagnosis broad at this point.
   No recent trauma. Causes of RP bleed could include: renal maignancy,
   pyelonephritis +/- abscess, vascular disease, rupture of renal cyst.
   Subcapsular and intraparenchymal bleed makes intrinsic kidney etiology
   most likely. Exophytic lesion on upper pole noted on CT (12->22mm since
   [**2188**]) but unrelated to current bleed. Bleed most likely exacerbated by
   warfarin (although not supratherapeutic INR ~2.5) and daily baby
   aspirin (functional platelet abnormalities).  Urology is following.
   Decreased urine output is concerning for progression of bleed affecting
   renal perfusion, and Cr has bumped from 2.3 --> 4.5 overnight.
   -- will call urology this am to touch base about the decreased urine
   output
   -- will give another 2 units FFP given possible progression of bleed
   -- cont holding warfarin, aspirin
   -- would lke to give RBC transfusion, but will hold given volume
   .
   (#) ACUTE ON CHRONIC RENAL FAILURE: unclear what his baseline is (seems
   to be in mid 2's); acute change with minimal UOP in last few hours is
   concerning for progression of the hematoma compromising blood flow to
   the kidney or IVC; also has a mildly elevated lactate.
   -- will repeat pelvis CT scan
   -Continue calcitriol 0.25 mcg PO DAILY
   -- renal diet when restarted
   .
   (#) POSSIBLE AMI: ST changes on EKG ordered for eval of nausea (not CP,
   albeit pt is diabetic) were considered "artifact" by cards fellow and
   normalized on repeat EKG.
   -- CE ordered with am labs though low suspicion will be positive
   -- cont statin; hold ASA given bleed
   .
   (#) Fever/Leukocytosis -  WBC currently 13.6 with left shift. Infection
   is highest on differential, although stress reaction to acute bleed,
   inflammatory, and neoplastic disease are also possible. No evidence fo
   PNA currently (though may have had an aspirtaion event last night).
   -- continue to monitor
   -- Check urine culture, blood culture
   .
   # CHF (h/o systolic dysfunction, though normalized on [**2188**] echo): Pt
   reports history of mild edema and recent weight gain. Known systolic
   dysfunction although LVEF in [**2188**] >55%.
   -Strict I's and O's
   -monitor respiratory status, vital signs
   -- might consider repeat echo
   .
   #Atrial fibrillation: Hx of inducible VT, s/p upgrade to a BiV ICD [**2186**]
   (defibrillated 1x).
   -holding coumadin
   -continue telemetry
   .
   # DMII: Diagnosed seven years ago, most recent HgA1C: 8.5% as of [**Month (only) 435**]
   [**2190**].
   -HISS
   - [**First Name8 (NamePattern2) **] [**Location (un) 1936**] of [**Last Name (un) 303**] folows his DM, as pt is on a study drug for
   kidney disease
   .
   #HTN: Currently stable though on low side with possible IVC compression
   from hematoma.  Will be cautious with antihypertensives in setting of
   bleed.
   - furosemide according to BP parameters
   -hold metoprolol and valsartan, reasses if needed
   .
   #Hypothyroidism: Stable, continue levothyroxine sodium 125 mcg
   .
   #Gout: continue allopurinol
   .
   # FEN: No IVF, replete electrolytes, NPO for possible UGIB
   .
   # Prophylaxis: Pneumoboots, ambulation
   .
   # Access: peripherals
   .
   # Code: presumed full
   .
   # Communication: Patient, patient's wife [**Name (NI) **] [**Name (NI) 10486**] [**Telephone/Fax (1) 10487**]
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-10-31**] 08:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-11-02 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   (1)  In AM - complained of chest discomfort and shortness of breath;
   EKG was not concerning however troponins began to rise from .06 -> .12
   -> .15 with CK-MB of 6 -> 11 -> 12.  CK-MB fractions were
   non-significant. Touched base with Dr[**Name (NI) 10535**] coverage who felt this
   was likely secondary to renal failure.
   (2) Began to desaturate into the low 90s in the morning, with use of
   accessory muscles, tachycardic; was intubated.  Despite intubation, pt
   continued to desaturate into the low 80s, with HRs of 110-120; febrile
   to 101.  Felt that patient was overbreathing the vent and sedation was
   increased.  Due to continued desaturations, esophageal balloon was
   placed for more accurate measurements of transpulmonary pressures and
   determine if reduction in chest wall compliance, given abdominal
   distension.   The transpulmonary inspiratory pressure was 11 and
   expiratory pressure was 1; PEEP was increased to 25 and tidal volumes
   were decreased from 550 to 500.  ET tube was noted to be 8 cm above
   carina; was moved down 3-4 cm.  After these adjustments, blood gas was
   mildly improved with pO2 of 71 pCO2 of 35 pH of  7.34.   This morning's
   blood gas had continued improvement with pO2 of 84 pCO2 of 39 and pH of
   7.36.
   (3) Repeat echo showed no new changes compared to [**10-31**]: inferior basal
   and inferolateral hypokinesis w/ LVEF of 40% new compared to study from
   last year.
   (4) Abdominal pressures were 26, then 19 after OG tube was placed and
   lots of fluid aspirated up.
   (5) Renal placed a port yesterday and began CVVH last night.
   (6)  Got some FFP to keep INR < 2 and got some blood to keep HCT > 25.
   HCTs were stable 25-26.
   (7) KUB obtained which showed: air + fecal material throughout small
   bowel and colon suggestive of ileus or chronic air swallowing unchanged
   from CT 1 day prior; no obstruction noted.
   (8) Broad spectrum abx started for CAP:  cef+ azithro.
   (9) CT abdomen: wasnt stable enough respiratory-wise to go down for CT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2190-11-1**] 10:29 PM
   Azithromycin - [**2190-11-1**] 10:30 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2190-11-1**] 09:45 AM
   Pantoprazole (Protonix) - [**2190-11-1**] 08:14 PM
   Metoprolol - [**2190-11-1**] 11:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-2**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 35.8
C (96.4
   HR: 89 (84 - 128) bpm
   BP: 103/63(76) {69/50(-1) - 120/65(81)} mmHg
   RR: 25 (13 - 26) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Height: 68 Inch
    Bladder pressure: 19 (19 - 26) mmHg
   Total In:
                                                                  2,517 mL
                                                                  2,021 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  1,435 mL
                                                                  1,671 mL
   Blood products:
                                                                    872 mL
                                                                    350 mL
   Total out:
                                                                  1,350 mL
                                                                  1,839 mL
   Urine:
                                                                    450 mL
                                                                     18 mL
   NG:
                                                                    900 mL
   Stool:
   Drains:
   Balance:
                                                                  1,167 mL
                                                                    182 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (400 - 550) mL
   RR (Set): 23
   RR (Spontaneous): 0
   PEEP: 25 cmH2O
   FiO2: 90%
   RSBI Deferred: PEEP > 10
   PIP: 41 cmH2O
   Plateau: 36 cmH2O
   Compliance: 47.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.36/39/84.[**Numeric Identifier 1000**]/19/-2
   Ve: 11.6 L/min
   PaO2 / FiO2: 93
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   274 K/uL
   9.5 g/dL
   229 mg/dL
   6.4 mg/dL
   19 mEq/L
   5.0 mEq/L
   69 mg/dL
   101 mEq/L
   137 mEq/L
   28.6 %
   15.7 K/uL
        [image002.jpg]
                             [**2190-11-1**]  03:39 PM
                             [**2190-11-1**]  06:25 PM
                             [**2190-11-1**]  06:36 PM
                             [**2190-11-1**]  07:30 PM
                             [**2190-11-1**]  10:04 PM
                             [**2190-11-1**]  10:14 PM
                             [**2190-11-2**]  02:36 AM
                             [**2190-11-2**]  02:55 AM
                             [**2190-11-2**]  04:01 AM
                             [**2190-11-2**]  05:52 AM
   WBC
   15.7
   Hct
   25.0
   28.6
   Plt
   263
   274
   Cr
   7.2
   6.4
   TropT
   0.15
   0.31
   TCO2
   22
   20
   23
   23
   22
   23
   Glucose
   194
   163
   229
   Other labs: PT / PTT / INR:20.1/28.6/1.9, CK / CKMB /
   Troponin-T:266/7/0.31, ALT / AST:28/41, Alk Phos / T Bili:91/1.0,
   Lactic Acid:1.7 mmol/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   Assessment and Plan
   This is a 69yo man with history of CABG, atrial fibrillation with
   pacer/defibrillator on coumadin, systolic CHF (most recent echo in
   69 yom with hx of CAD s/p CABG, AF on coumadin with pacer a/w acute
   hemorrhage of right kidney, hypoxia and r/o AMI.
   ## Hypoxia
   Was desaturating on ventilator, w/ PaO2s in the 70s - 80s on 100%
   FiO2.  Unclear what's causing low saturations but likely
   multifactorial.  Abdominal distension may reduce chest wall compliance,
   leading to hypoxemia.  Secondly, he may have underlying pulmonary edema
   given his biventricular heart failure and that he received multiple
   RBCS + FFPs.  He may also have an underlying  infectious process (white
   count has been trending up, has been febrile, and respiratory sputum is
   growing  4+ gram negative rods and 2+ gram positive cocci in pairs and
   chains. Finally, the patient is frequently overbreathing the ventilator
   and appears to be in dyssynchrony with the ventilator.
   -Blood gas has improved considerably this AM on higher PEEP, lower
   tidal volumes, and adjustment of ET tube.  Could decrease FiO2 and PEEP
   as tolerated.
   -Sputum gram stain shows gram negative rods and gram positive cocci;
   being covered for CAP with azithromycin and ceftriaxone.  If in next
   two days, no improvement clinically, consider switching to HAP
   coverage.
   -Given reduced systolic function (EF of 40%) in setting of multiple
   blood products, could be fluid overloaded although radiographically
   doesn
t appear to be so.  Overall is 3 L positive.  Given that he is
   currently getting CVVH, [**Male First Name (un) **]
t need to aggressively diurese.  Can adjust
   rate of CVVH to keep him slightly negative.
   -Increase sedation as necessary to reduce dyssynchrony.
   .
   ## Retroperitoneal Bleed: patient with intraparrenchymal / subcapsular
   bleed of right kidney possibly secondary to cyst rupture in setting of
   high INR from coumadin.  HCTs are currently stable. Patient is now s/p
   4 units PRBC
s and 7 units FFP to help support hemodynamics and reverse
   INR.
   - [**Hospital1 7**] HCTs.  PRBC transfusion for goal > 25 and FFP transfusion for INR
   goal < 1.9
   - holding ASA and coumadin
   - f/u urology recs
   -Not going for CT given unstable respiratory status
   ## Acute / Chronic Renal Failure: Patient has creatinine of 6.4, in
   past two days has ranged from 5.3 -> 7.2.   Baseline creatinine is <
   3.  Given chronic kidney disease, is more subject to ATN:  in setting
   of GI bleed, may have been hypotensive, which sustained, may have led
   to ATN.   Secondly, the rupture of the renal cyst may have further
   compromised renal function;
   - Renal following: underwent CVVH starting yesterday.
   -Continue to follow creatinines
   ## Atrial Fibrillation with RVR:  patient with irregular wide complex
   tachycardia up to 140
s becoming symptomatic with chest discomfort and
   dyspnea.
   - EP saw patient and felt pacer was functioning appropriately
   - currently on metoprolol 5 mg IV q6 hrs: rate controlled with HRs <
   100
   ## Fever / Leukocytosis:  WBC continues to remain elevated and could be
   secondary to a pneumonia as the patient is growing gram
 rods and gram
   + cocci in sputum.
   - Continue azithromycin + ceftriaxone
   - f/u blood and urine cultures and CXR
   ## Concern for UGIB:  Multiple times coffee-ground material suctioned
   from OG tube.  Doesn
t seem to have an active UG bleed as HCT is stable
   and does not look like frank blood.  Likely secondary to old prior
   bleed; source unclear.
   -Would continue IV PPI
   -maintain active type and screen
   # DMII: Diagnosed seven years ago, most recent HgA1C: 8.5% as of [**Month (only) 435**]
   [**2190**].  Sugars have been poorly controlled in the mid-upper 200
   - Despite increase in AM basal coverage and uptitration of ISS,
   continues to have sugars 200s
 300s.  Can try insulin drip for more
   optimal control.
   - contact [**Name (NI) 303**] re: DM management
   #Hypothyroidism:  continue levothyroxine sodium 125 mcg
   #Gout: d/c allopurinol given poor renal function
   # FEN: No IVF, replete electrolytes, NPO for possible UGIB
   # Prophylaxis: Pneumoboots, IV PPI
   # Access: peripherals, HD line
   # Code: full
   # Communication: Patient, patient's wife [**Name (NI) **] [**Name (NI) 10486**] [**Telephone/Fax (1) 10487**]
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-10-31**] 08:11 PM
   16 Gauge - [**2190-11-1**] 10:00 AM
   Dialysis Catheter - [**2190-11-1**] 03:30 PM
   Arterial Line - [**2190-11-1**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-11-03 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - L side IJ placed without complication, CXR confirmed placement
   - spiked a temp to 101 , obtained blood and sputum cultures
   - reduced FiO2 from 80% to 60%
   - Hct stable at 27.5.  No transfusion.  INR 1.3
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2190-11-1**] 10:30 PM
   Ceftriaxone - [**2190-11-2**] 07:33 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-11-2**] 07:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-3**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.9
C (98.4
   HR: 103 (87 - 109) bpm
   BP: 88/53(64) {86/53(64) - 132/73(91)} mmHg
   RR: 23 (22 - 24) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 68 Inch
    CVP: 17 (17 - 20)mmHg
   Total In:
                                                                  6,777 mL
                                                                  1,456 mL
   PO:
   TF:
   IVF:
                                                                  6,427 mL
                                                                  1,456 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  8,161 mL
                                                                  1,392 mL
   Urine:
                                                                     78 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,384 mL
                                                                     64 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   RR (Set): 23
   RR (Spontaneous): 0
   PEEP: 25 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 39 cmH2O
   Plateau: 36 cmH2O
   SpO2: 100%
   ABG: 7.41/41/125/24/1
   Ve: 12.2 L/min
   PaO2 / FiO2: 313
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   211 K/uL
   9.6 g/dL
   198 mg/dL
   4.4 mg/dL
   24 mEq/L
   4.3 mEq/L
   44 mg/dL
   96 mEq/L
   137 mEq/L
   27.5 %
   14.3 K/uL
        [image002.jpg]
                             [**2190-11-2**]  09:47 AM
                             [**2190-11-2**]  10:05 AM
                             [**2190-11-2**]  02:28 PM
                             [**2190-11-2**]  03:53 PM
                             [**2190-11-2**]  04:53 PM
                             [**2190-11-2**]  08:06 PM
                             [**2190-11-2**]  10:06 PM
                             [**2190-11-2**]  10:13 PM
                             [**2190-11-3**]  03:52 AM
                             [**2190-11-3**]  04:09 AM
   WBC
   12.8
   14.3
   Hct
   27.6
   27.5
   27.9
   27.5
   Plt
   [**Telephone/Fax (3) 10551**]11
   Cr
   4.9
   4.4
   TCO2
   24
   24
   24
   25
   25
   27
   Glucose
   177
   189
   198
   Other labs: PT / PTT / INR:14.7/25.5/1.3, CK / CKMB /
   Troponin-T:266/7/0.31, ALT / AST:28/41, Alk Phos / T Bili:91/1.0,
   Lactic Acid:1.5 mmol/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:4.3 mg/dL
   Fluid analysis / Other labs: 125* 41 7.41 27     (4 AM)
   128* 38 7.41 25 0  (10 PM)
   105 39 7.40 25      (8 PM)
   Imaging: CXR ([**2190-11-2**])
   Comparison is made with prior study performed a day earlier.
   Mild cardiomegaly is stable. Lines and tubes are in unchanged standard
   position. Diffuse perihilar lung opacities, right greater than left are
   unchanged, worsened from [**10-31**].
   Microbiology: Sputum Gram Stain:
   4+ gram negative rods
   2+ gram positive cocci
   Bcx, Urine cxs pending
   Assessment and Plan
   Assessment and Plan
   This is a 69yo man with history of CABG, atrial fibrillation with
   pacer/defibrillator on coumadin, systolic CHF (most recent echo in
   69 yom with hx of CAD s/p CABG, AF on coumadin with pacer a/w acute
   hemorrhage of right kidney, hypoxia and r/o AMI.
   ## Hypoxia
   Likely multifactorial in etiology.  Has underlying  nfectious process
   (white count has been trending up, has been febrile, and respiratory
   sputum is growing  4+ gram negative rods and 2+ gram positive cocci in
   pairs and chains.  Also abdominal distension may reduce chest wall
   compliance, leading to hypoxemia.  Thirdly, he may have underlying
   pulmonary edema given his biventricular heart failure and that he
   received multiple RBCS + FFPs.  He may also have an  Finally, the
   patient is frequently overbreathing the ventilator and was previously
   in dyssynchrony with ventilator although seems to have improved.
   -Blood gas considerably improved this AM on higher PEEP, lower tidal
   volumes.  Currently on 40% FiO2; could decrease PEEP as tolerated.
   Improvement in CXR also suggests that respiratory status improvement
   likely secondary to continued resolution of PNA.
   -Sputum gram stain shows gram negative rods and gram positive cocci;
   being covered for CAP with azithromycin and ceftriaxone.  White count
   still trending up and re-spiked; if by tomorrow WBC has not improved
   and has continued fevers, expand coverage to HAP.
   -Given reduced systolic function (EF of 40%) in setting of multiple
   blood products, could be fluid overloaded although radiographically
   doesn
t appear to be so.  Due to CVVH was -2 L overnight, overall is
   now only 1 L positive.  Continue CVVH, can adjust rate to take off
   maximum 1 L today so to keep him at balance.  No need to aggressively
   diurese.
   .
   ## Retroperitoneal Bleed: patient with intraparrenchymal / subcapsular
   bleed of right kidney possibly secondary to cyst rupture in setting of
   high INR from coumadin.  HCTs are currently stable. Patient is now s/p
   4 units PRBC
s and 7 units FFP to help support hemodynamics and reverse
   INR.
   - daily HCTs.  PRBC transfusion for goal > 25 and FFP transfusion for
   INR goal < 1.9
   - holding ASA and coumadin
   - f/u urology recs
   - No need for CT for further evaluation given that HCTs have stabilized
   ## Acute / Chronic Renal Failure: Creatinine has been improving 5.6 ->
   4.9 -> 4.4.  Given chronic kidney disease, is more subject to ATN:  in
   setting of GI bleed, may have been hypotensive, which sustained, may
   have led to ATN.   Secondly, the rupture of the renal cyst may have
   further compromised renal function;
   - Renal following: underwent CVVH starting yesterday.   Probably may
   have reached new baseline.
   - Renally dosing meds, avoiding nephrotoxic agents.
   -Continue to follow creatinines
   ## Abdominal distension
 likely secondary to ileus: KUB shows lots of
   air + stool in bowel:
   -In addition to PR bisacodyl would add soap suds enema
   -Reglan for short term period (3 days)
   .
   ## Fevers/leukocytosis
   - Continue azithromycin + ceftriaxone; adding vancomycin for coverage
   of enterococcal UTI
   -F/u blood, urine, sputum cxs
   .
   ## Concern for UGIB:  Multiple times coffee-ground material suctioned
   from OG tube.  Doesn
t seem to have an active UG bleed as HCT is stable
   and does not look like frank blood.  Likely secondary to old prior
   bleed; source unclear.
   .
   -Would continue IV PPI
   -maintain active type and screen
   ## Atrial Fibrillation with RVR:  patient with irregular wide complex
   tachycardia up to 140
s becoming symptomatic with chest discomfort and
   dyspnea.
   - EP saw patient and felt pacer was functioning appropriately
   - currently on metoprolol 5 mg IV q6 hrs: rate controlled with HRs <
   100
   .
   # DMII: Diagnosed seven years ago, most recent HgA1C: 8.5% as of [**Month (only) 435**]
   [**2190**].  Switched to insulin drip yesterday.  Sugars over past 12 hours
   have all been 100 - 200; would continue drip given improved control.
   #Hypothyroidism:  continue levothyroxine sodium 125 mcg
   #Gout: d/c allopurinol given constantly fluctuation renal function; can
   restart but give 100 mg every other day given poor GFR
   # FEN: No IVF, replete electrolytes, NPO for possible UGIB
   # Prophylaxis: Pneumoboots, IV PPI
   # Access: IJ, peripherals, HD line
   # Code: full
   # Communication: Patient, patient's wife [**Name (NI) **] [**Name (NI) 10486**] [**Telephone/Fax (1) 10487**]
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2190-11-1**] 10:00 AM
   Dialysis Catheter - [**2190-11-1**] 03:30 PM
   Arterial Line - [**2190-11-1**] 06:00 PM
   Multi Lumen - [**2190-11-2**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-11-04 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - blood 10/6: GPC's in pairs and clusters - 1/4 bottles
   - urine [**11-2**]: enterococcus, vancomycin added
   - CVVH set at -100 cc/hr per renal or 1-1.5/day
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2190-11-3**] 05:00 PM
   Ceftriaxone - [**2190-11-3**] 07:56 PM
   Azithromycin - [**2190-11-3**] 10:03 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Norepinephrine - 0.16 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-11-3**] 07:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-4**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.1
C (100.5
   HR: 92 (92 - 121) bpm
   BP: 108/58(73) {77/47(56) - 119/67(82)} mmHg
   RR: 20 (20 - 23) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Height: 70 Inch
    CVP: 15 (13 - 24)mmHg
   Total In:
                                                                  6,040 mL
                                                                    320 mL
   PO:
   TF:
   IVF:
                                                                  6,040 mL
                                                                    320 mL
   Blood products:
   Total out:
                                                                  6,835 mL
                                                                     45 mL
   Urine:
                                                                     35 mL
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -795 mL
                                                                    275 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 30 cmH2O
   Compliance: 52 cmH2O/mL
   SpO2: 99%
   ABG: 7.47/39/114/29/4
   Ve: 12.2 L/min
   PaO2 / FiO2: 285
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   221 K/uL
   9.0 g/dL
   155 mg/dL
   4.4 mg/dL
   29 mEq/L
   4.1 mEq/L
   44 mg/dL
   97 mEq/L
   138 mEq/L
   26.7 %
   16.3 K/uL
        [image002.jpg]
                             [**2190-11-3**]  04:09 AM
                             [**2190-11-3**]  09:46 AM
                             [**2190-11-3**]  10:01 AM
                             [**2190-11-3**]  01:38 PM
                             [**2190-11-3**]  03:49 PM
                             [**2190-11-3**]  04:20 PM
                             [**2190-11-3**]  10:00 PM
                             [**2190-11-3**]  10:16 PM
                             [**2190-11-4**]  03:57 AM
                             [**2190-11-4**]  06:21 AM
   WBC
   16.3
   Hct
   26.3
   26.0
   26.7
   Plt
   221
   Cr
   4.0
   4.4
   TCO2
   27
   28
   28
   29
   30
   30
   29
   Glucose
   166
   176
   175
   155
   Other labs: PT / PTT / INR:14.2/24.8/1.2, CK / CKMB /
   Troponin-T:266/7/0.31, ALT / AST:28/41, Alk Phos / T Bili:91/1.0,
   Differential-Neuts:86.0 %, Lymph:6.7 %, Mono:5.4 %, Eos:1.7 %, Lactic
   Acid:1.5 mmol/L, Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: pO2 114 pCO2 39  pH 7.47*
   Imaging: Continued resolution of patchy infiltrates bilaterally.
   [**11-3**] CXR: HISTORY: Retroperitoneal bleed and hypoxic respiratory
   failure, now intubated.
   All of the areas of previous multifocal consolidation have either
   cleared or
   substantially improved, though the pace of resolution is much slower in
   the
   right upper lung. Asymmetric pulmonary edema is the most likely
   explanation for the bulk of the abnormality, but aspiration or
   pulmonary hemorrhage may
   have played a role in the right upper lobe. Heart size is normal, and
   there
   is no mediastinal vascular engorgement, no pleural effusion, or
   pneumothorax.
   Lines and tubes in standard placements, unchanged.
   Microbiology: 1/4 bottles of aerobic BCx:  Has gram+ cocci growing in
   pairs and clusters
   urine culture: >100,000 colonies of enterococcus (preliminary)
   sputum gram stain:  4+ gram negative rods, 2+ gram + cocci, and
   respiratory culture shows 2 different species of gram - rods.
   Assessment and Plan
   Assessment and Plan
   This is a 69yo man with history of CABG, atrial fibrillation with
   pacer/defibrillator on coumadin, systolic CHF (most recent echo in
   69 yom with hx of CAD s/p CABG, AF on coumadin with pacer a/w acute
   hemorrhage of right kidney, hypoxia and r/o AMI.
   ## Hypoxia
   Likely multifactorial in etiology.  Has likely underlying pneumonia
   (white count has been trending up, has been febrile, and respiratory
   sputum shows 4+ gram negative rods and 2+ gram positive cocci in pairs
   and chains.  Most likely to be community acquired since developed at
   time of admission and not coming from OSH; also not likely to be
   ventilator acquired since developed prior to being intubated.  Other
   reasons for hypoxia:  Also abdominal distension may reduce chest wall
   compliance, leading to hypoxemia.  Thirdly, he may have underlying
   pulmonary edema given his biventricular heart failure and that he
   received multiple RBCS + FFPs.  Finally, the patient is frequently
   overbreathing the ventilator and was previously in dyssynchrony with
   ventilator although seems to have improved.
   -Blood gas looks good this AM even with PEEP reduced to 20, and  40%
   FiO2; could continue decrease PEEP as tolerated to keep PO2 sats >
   90%.  Further improvement in CXR also suggests that respiratory status
   improvement likely secondary to continued resolution of PNA.
   -Sputum gram stain shows gram negative rods and gram positive cocci;
   being covered for CAP with azithromycin and ceftriaxone.  White count
   still trending up, however respiratory status has improved and CXR
   looks resolved - continue coverage for CAP w/ ceftriaxone +
   azithromycin (day 4 of 8 day course).
   -Given reduced systolic function (EF of 40%) in setting of multiple
   blood products, could be fluid overloaded although radiographically
   doesn
t appear to be so.  Due to CVVH was -0.8 L overnight, overall is
   total -0.8 L.  Continue CVVH, can adjust rate to keep at balance or
   just slightly negative as per renal recs.  No need to aggressively
   diurese.
   .
   ## Acute / Chronic Renal Failure: Creatinines are steady between 4.0
   and 5.0.  Given chronic kidney disease, is more subject to ATN:  in
   setting of GI bleed, may have been hypotensive, which sustained, may
   have led to ATN.   Secondly, the rupture of the renal cyst may have
   further compromised renal function; may have reached new baseline.
   Continues to be oliguric (made 35 cc of urine yesterday).
   - Renal following: undergoing CVVH.  Probably may have reached new
   baseline.
   - Renally dosing meds, avoiding nephrotoxic agents.
   -Continue to follow creatinines
   ## Retroperitoneal Bleed: patient with intraparrenchymal / subcapsular
   bleed of right kidney possibly secondary to cyst rupture in setting of
   high INR from coumadin.  HCTs are currently stable. Patient is now s/p
   4 units PRBC
s and 7 units FFP to help support hemodynamics and reverse
   INR.
   - daily HCTs.  PRBC transfusion for goal > 25 and FFP transfusion for
   INR goal < 1.9
   - holding ASA and coumadin
   - f/u urology recs
   .
   ## Abdominal distension
 likely secondary to ileus: KUB shows lots of
   air + stool in bowel:
   -In addition to PR bisacodyl would add soap suds enema
   -Reglan for short term period (3 days)
   -Due to ileus and distension is having difficulties with tube feeds; if
   no resolution of ileus today, may have to consider D/C tube feeds and
   trying TPN.
   .
   ## Fevers/leukocytosis
   -Sources including CAP, UTI as urine is growing enterococcus.  Started
   on vancomycin yesterday to cover this until we get sensitivities.
   -1/4 bottles is growing GPCs which could be contaminant;  although gram
   stain shows gram + cocci so could be enterococcus.  For now, continue
   coverage with vancomycin (day 2).  Follow-up blood cultures and
   sensitivities.
   - Continue azithromycin + ceftriaxone for CAP (day 4 of 8 day course).
   Follow up sputum cultures.
   .
   ## Concern for UGIB:  Multiple times coffee-ground material suctioned
   from OG tube.  Doesn
t seem to have an active UG bleed as HCT is stable
   and does not look like frank blood.  Likely secondary to old prior
   bleed; source unclear.
   .
   -Would continue IV PPI
   -maintain active type and screen
   ## Atrial Fibrillation with RVR:  patient with irregular wide complex
   tachycardia up to 140
s becoming symptomatic with chest discomfort and
   dyspnea.
   - EP saw patient and felt pacer was functioning appropriately
   - currently on metoprolol 5 mg IV q6 hrs: rate controlled with HRs <
   100
   .
   # DMII: Diagnosed seven years ago, most recent HgA1C: 8.5% as of [**Month (only) 435**]
   [**2190**].  Switched to insulin drip yesterday.  Sugars over past 12 hours
   have all been 100 - 200; would continue drip given improved control.
   #Hypothyroidism:  continue levothyroxine sodium 125 mcg
   #Gout: d/c allopurinol given constantly fluctuation renal function; can
   restart but give 100 mg every other day given poor GFR (renally dosed)
   # FEN: No IVF, replete electrolytes; if BM occurs today can start TF;
   if no BM may have to consider TPN.
   # Prophylaxis: Pneumoboots, IV PPI
   # Access: IJ, peripherals, HD line
   # Code: full
   # Communication: Patient, patient's wife [**Name (NI) **] [**Name (NI) 10486**] [**Telephone/Fax (1) 10487**]
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2190-11-1**] 10:00 AM
   Dialysis Catheter - [**2190-11-1**] 03:30 PM
   Arterial Line - [**2190-11-1**] 06:00 PM
   Multi Lumen - [**2190-11-2**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-11-04 11:17:00 Physician Attending Progress Note
Chief Complaint: Renal Failure
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CVVH with negative fluid balance effected
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2190-11-3**] 05:00 PM
   Ceftriaxone - [**2190-11-3**] 07:56 PM
   Azithromycin - [**2190-11-3**] 10:03 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Norepinephrine - 0.14 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-4**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 98 (92 - 121) bpm
   BP: 104/59(72) {77/47(56) - 119/67(82)} mmHg
   RR: 20 (20 - 23) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Height: 70 Inch
   CVP: 16 (14 - 24)mmHg
   Total In:
                                                                  6,040 mL
                                                                    458 mL
   PO:
   TF:
   IVF:
                                                                  6,040 mL
                                                                    458 mL
   Blood products:
   Total out:
                                                                  6,835 mL
                                                                     65 mL
   Urine:
                                                                     35 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -795 mL
                                                                    393 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 29 cmH2O
   Compliance: 57.8 cmH2O/mL
   SpO2: 99%
   ABG: 7.45/40/115/28/4
   Ve: 10.6 L/min
   PaO2 / FiO2: 287
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   221 K/uL
   165 mg/dL
   4.4 mg/dL
   28 mEq/L
   4.3 mEq/L
   44 mg/dL
   96 mEq/L
   138 mEq/L
   26.7 %
   16.3 K/uL
        [image002.jpg]
                             [**2190-11-3**]  10:01 AM
                             [**2190-11-3**]  01:38 PM
                             [**2190-11-3**]  03:49 PM
                             [**2190-11-3**]  04:20 PM
                             [**2190-11-3**]  10:00 PM
                             [**2190-11-3**]  10:16 PM
                             [**2190-11-4**]  03:57 AM
                             [**2190-11-4**]  06:21 AM
                             [**2190-11-4**]  09:33 AM
                             [**2190-11-4**]  09:53 AM
   WBC
   16.3
   Hct
   26.3
   26.0
   26.7
   Plt
   221
   Cr
   4.0
   4.4
   TCO2
   28
   28
   29
   30
   30
   29
   29
   Glucose
   176
   175
   155
   165
   Other labs: PT / PTT / INR:14.2/24.8/1.2, CK / CKMB /
   Troponin-T:266/7/0.31, ALT / AST:28/41, Alk Phos / T Bili:91/1.0,
   Differential-Neuts:86.0 %, Lymph:6.7 %, Mono:5.4 %, Eos:1.7 %, Lactic
   Acid:1.5 mmol/L, Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR--ETT and multiple central venous access lines and wires
   are unchanged.
   We have mild improvement in infiltrate from yesterday which is
   substantially improved from before.
   Microbiology: Blood 1/4 with GPC seen
   Respiratory Culture--2 GNR's seen on culture
   Assessment and Plan
   69 yo male with history of A-fib and on anticoagulation now with renal
   bleed possibly secondary to renal cyst now with respiratory failure and
   pneumonia.
   1)Renal Failure--Acute on chronic renal failure in the setting of renal
   bleed and impaired function requiring CVVH
   -Continue CVVH
   -Follow urine output
   -Goal is negative fluid balance going forward if able
   2)Respiratory Failure-Possible contribution from signficant pneumonia,
   however, in the setting of rapid evolution and resolution of pulmonary
   edema this is concerning for evidence of acute lung injury in the
   setting of significant renal ischemia.
   -Vanco/CTZ/Azithro given concern for infection on day [**5-5**]
   -Will maintain negative fluid balance
   -Will maintain PEEP optimization and continue to wean as possible
   reassuring and with oxygenation stable will continue to wean
   -Will have to follow blood culture results as in the setting of an
   absence of systemic insult contaminant
   3)Retorperitoneal Bleed-
   -Will continue to follow HCT
   -Re-image for acute change in hemodynamics or HCT
   Additional Issues to be addressed as defined in the housestaff note of
   this date
   ICU Care
   Nutrition: Tube Feeds to start but will go to TPN for interim support
   Glycemic Control:
   Lines:
   16 Gauge - [**2190-11-1**] 10:00 AM
   Dialysis Catheter - [**2190-11-1**] 03:30 PM
   Arterial Line - [**2190-11-1**] 06:00 PM
   Multi Lumen - [**2190-11-2**] 04:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes

2190-11-05 08:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -PM lytes were okay
   -went up on lantus from 44 - 48 (sugars were 150 - 200 yesterday)
   -reduced PEEP at 15, rate decreased to 18, FiO2 at 40%: gas was
   p103 35 7.47*
   -levophed reduced to 0.4
   -Nutrition consulted and TPN order placed this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2190-11-3**] 05:00 PM
   Azithromycin - [**2190-11-3**] 10:03 PM
   Ceftriaxone - [**2190-11-4**] 09:30 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-5**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.3
C (97.4
   HR: 91 (90 - 105) bpm
   BP: 114/63(79) {68/40(49) - 123/63(80)} mmHg
   RR: 16 (16 - 21) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 70 Inch
    CVP: 14 (3 - 17)mmHg
   Total In:
                                                                  3,916 mL
                                                                  1,970 mL
   PO:
   TF:
   IVF:
                                                                  3,916 mL
                                                                  1,970 mL
   Blood products:
   Total out:
                                                                  4,042 mL
                                                                  2,319 mL
   Urine:
                                                                    135 mL
                                                                     30 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                   -126 mL
                                                                   -349 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.44/39/92.[**Numeric Identifier 132**]/25/1
   Ve: 9.4 L/min
   PaO2 / FiO2: 232
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   184 K/uL
   8.6 g/dL
   129 mg/dL
   3.6 mg/dL
   25 mEq/L
   4.4 mEq/L
   40 mg/dL
   99 mEq/L
   139 mEq/L
   26.6 %
   15.6 K/uL
        [image002.jpg]
                             [**2190-11-4**]  06:21 AM
                             [**2190-11-4**]  09:33 AM
                             [**2190-11-4**]  09:53 AM
                             [**2190-11-4**]  03:28 PM
                             [**2190-11-4**]  04:06 PM
                             [**2190-11-4**]  06:00 PM
                             [**2190-11-4**]  10:27 PM
                             [**2190-11-4**]  10:38 PM
                             [**2190-11-5**]  04:07 AM
                             [**2190-11-5**]  04:18 AM
   WBC
   15.6
   Hct
   26.5
   25.7
   26.6
   Plt
   184
   Cr
   4.2
   3.6
   TCO2
   29
   29
   27
   26
   27
   27
   Glucose
   165
   161
   182
   129
   Other labs: PT / PTT / INR:14.1/24.3/1.2, CK / CKMB /
   Troponin-T:266/7/0.31, ALT / AST:28/41, Alk Phos / T Bili:91/1.0,
   Differential-Neuts:89.9 %, Lymph:5.1 %, Mono:3.8 %, Eos:0.9 %, Lactic
   Acid:1.5 mmol/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Fluid analysis / Other labs: most recent ABG:
   93 39 7.44 27
   Imaging: From [**11-4**]:
   Exam is limited by exclusion of the periphery of the right mid and
   lower lung
   from the study. An area of poorly defined consolidation in the right
   upper
   lobe appears slightly improved, but there is worsening patchy opacity
   in both
   infrahilar regions. Cardiomediastinal contours appear unchanged.
   Indwelling
   devices remain in standard position.
   Microbiology: 4+ gram - rod in sputum: K pneumonia
   2+ GPC in sputum
   Enterococcus in urine sensitive to ampicillin, vancomycin.
   1 bottle: coag - staph in blood, likely contaminant
   Assessment and Plan
   This is a 69yo man with history of CABG, atrial fibrillation with
   pacer/defibrillator on coumadin, systolic CHF (most recent echo in
   69 yom with hx of CAD s/p CABG, AF on coumadin with pacer a/w acute
   hemorrhage of right kidney, hypoxia and r/o AMI.
   ## Hypoxia
   Likely multifactorial in etiology.  Has underlying Klebsiella
   pneumonia; further cx by fluid overload from receiving multiple BP (has
   CHF) and abdominal distension.
   -Blood gas looks good this AM even with PEEP reduced to 15, and  40%
   FiO2; could continue decrease PEEP to 10, with target of getting to 5
   as tolerated to keep PO2 sats > 90%.  Improvement in consolidation
   suggests that this improvement in respiratory status is due to
   resolution of underlying infection.
   -Sputum gram stain shows gram negative rods and gram positive cocci;
   being covered with azithromycin and ceftriaxone which should cover both
   gram + and klebsiella and atypicals.  WBC plateau'd and now falling;
   continue  ceftriaxone + azithromycin (day 5 of 8 day course).
   -Continue CVVH, can adjust rate to keep at balance or just slightly
   negative as per renal recs.  No need to aggressively diurese.
   .
   ## Acute / Chronic Renal Failure: Creatinine continuing to resolve,
   trended down to 3.6.  Cause of ARF likely secondary to ATN secondary to
   sustained hypoTN as well as intraparenchymal bleed.  Given chronic
   kidney disease, is more subject to ATN:  in setting of GI bleed, may
   have been hypotensive, which sustained, may have led to ATN.
   Secondly, the rupture of the renal cyst may have further compromised
   renal function; may have reached new baseline.  Continues to be
   oliguric (made 5cc /hr of urine yesterday).
   - Renal following: undergoing CVVH.  Probably may have reached new
   baseline.
   - Renally dosing meds, avoiding nephrotoxic agents.
   -Continue to follow creatinines
   ## Retroperitoneal Bleed: patient with intraparrenchymal / subcapsular
   bleed of right kidney possibly secondary to cyst rupture in setting of
   high INR from coumadin.  HCTs are currently stable. Patient is now s/p
   4 units PRBC
s and 7 units FFP to help support hemodynamics and reverse
   INR.
   - daily HCTs.  PRBC transfusion for goal > 25 and FFP transfusion for
   INR goal < 1.9
   - holding ASA and coumadin
   .
   ## Abdominal distension
 likely secondary to ileus: KUB shows lots of
   air + stool in bowel:
   -Aggressive bowel regimen:   PR bisacodyl, have tried soap suds enema.
   If still failing, can try milk + molasses (brown cow)
   -Reglan for short term period (3 days)
   .
   ## Fevers/leukocytosis - Continues to be intermittently febrile but has
   largely resolved.
   -Sources including CAP, UTI as urine is growing enterococcus.
   Enterococcus is sensitive to ampicillin; can switch to this and
   continue to finish 10 day course.
   -1/4 bottles is growing GPCs is likely to be contaminant; Follow-up
   blood cultures and sensitivities.
   - Continue azithromycin + ceftriaxone for CAP/klebsiella PNA (day 5 of
   8 day course). Follow up sputum cultures.
   .
   ## Concern for UGIB:  Multiple times coffee-ground material suctioned
   from OG tube.  Doesn
t seem to have an active UG bleed as HCT is stable
   and does not look like frank blood.  Likely secondary to old prior
   bleed; source unclear.
   .
   -Would continue IV PPI
   -maintain active type and screen
   ## Atrial Fibrillation with RVR:  patient with irregular wide complex
   tachycardia up to 140
s becoming symptomatic with chest discomfort and
   dyspnea.
   - EP saw patient and felt pacer was functioning appropriately
   - currently on metoprolol 5 mg IV q6 hrs: rate controlled with HRs <
   100
   .
   # DMII: Diagnosed seven years ago, most recent HgA1C: 8.5% as of [**Month (only) 435**]
   [**2190**].  Went up on lantus this AM.  Sugars over past 12 hours have all
   been 100 - 200.
   #Hypothyroidism:  continue levothyroxine sodium 125 mcg
   #Gout: allopurinol 100 mg every other day given poor GFR (renally
   dosed)
   # FEN: No IVF, replete electrolytes; if BM occurs today can start TF;
   if no BM may have to consider TPN.
   # Prophylaxis: Pneumoboots, IV PPI
   # Access: IJ, peripherals, HD line
   # Code: full
   # Communication: Patient, patient's wife [**Name (NI) **] [**Name (NI) 10486**] [**Telephone/Fax (1) 10487**]
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2190-11-1**] 03:30 PM
   Arterial Line - [**2190-11-1**] 06:00 PM
   Multi Lumen - [**2190-11-2**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-11-05 10:40:00 Physician Attending Progress Note
Chief Complaint: Renal Failure
   Respiratory Failure
   Retroperitoneal Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   --PEEP able to be weaned across the day yesterday with FIO1=0.4 PEEP-15
   7.47/35/103 was ABG
   -Levophed weaned to 0.1 thorugh to this morning
   -TPN started yesterday
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2190-11-3**] 10:03 PM
   Ceftriaxone - [**2190-11-4**] 09:30 PM
   Vancomycin - [**2190-11-5**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Calcium Gluconate (CRRT)
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-11-5**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-5**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.3
   HR: 86 (86 - 105) bpm
   BP: 104/53(68) {68/40(49) - 125/63(80)} mmHg
   RR: 18 (16 - 20) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 70 Inch
   CVP: 12 (3 - 17)mmHg
   Total In:
                                                                  3,916 mL
                                                                  2,590 mL
   PO:
   TF:
   IVF:
                                                                  3,916 mL
                                                                  2,590 mL
   Blood products:
   Total out:
                                                                  4,042 mL
                                                                  2,844 mL
   Urine:
                                                                    135 mL
                                                                     65 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                   -126 mL
                                                                   -254 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.42/40/96.[**Numeric Identifier 181**]/25/0
   Ve: 9.2 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   184 K/uL
   192
   3.6 mg/dL
   25 mEq/L
   4.4 mEq/L
   40 mg/dL
   99 mEq/L
   139 mEq/L
   26.6 %
   15.6 K/uL
        [image002.jpg]
                             [**2190-11-4**]  09:53 AM
                             [**2190-11-4**]  03:28 PM
                             [**2190-11-4**]  04:06 PM
                             [**2190-11-4**]  06:00 PM
                             [**2190-11-4**]  10:27 PM
                             [**2190-11-4**]  10:38 PM
                             [**2190-11-5**]  04:07 AM
                             [**2190-11-5**]  04:18 AM
                             [**2190-11-5**]  10:00 AM
                             [**2190-11-5**]  10:12 AM
   WBC
   15.6
   Hct
   26.5
   25.7
   26.6
   Plt
   184
   Cr
   4.2
   3.6
   TCO2
   29
   27
   26
   27
   27
   27
   Glucose
   161
   182
   129
   192
   Other labs: PT / PTT / INR:14.1/24.3/1.2, CK / CKMB /
   Troponin-T:266/7/0.31, ALT / AST:28/41, Alk Phos / T Bili:91/1.0,
   Differential-Neuts:89.9 %, Lymph:5.1 %, Mono:3.8 %, Eos:0.9 %, Lactic
   Acid:1.5 mmol/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Imaging: CXR-Tubes and lines not changed substantially--he has small
   right sided opacity which is unchanged.  Difference in right to left
   may well be technique
   Microbiology: Sputum-Klebsiella
   Assessment and Plan
   69 yo male with renal failure in the setting of right renal hemorrhage
   in area of previous cyst.  This retroperitoneal bleed has been
   complicated by hypoxemic respiratory failure as well as persistent
   renal failure.  He, however, has had minimal evidence of ongoing
   bleeding.
   1)respiratory failure
He has persistent increase in abdominal pressures
   which may limit capacity to wean PEEP and maintain oxygenation.
   -He will have PEEP continued with goal to wean to 10 today with slow
   wean
   -Will need to monitor FIO2, PO2 as we wean
   -Will have to look to maintain negative fluid balance
   -Azithromycin/Vancomycin/CTX for pnuemonia
   2)Renal Failure
Does appear to have chronic compromise and now with new
   insult to right kidney.  He has maintained oliguria across time
   -Will continue with dialysis with likely need for chronic use
   3)Hypotension
septic/hypovolemic
and with persistent decrease in blood
   pressure have been limited in ability to move to negative fluid
   balance
with Klebsiella treated and bleeding stopped would hope for
   improvement across time.
   -Azithromycin/Vancomycin/CTX for likely pulmonary source
   -Levophed to continue to wean
   -Maintain even fluid balance on CVVH
   Additional issues to be addressed as defined in the housestaff note of
   this date.
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 OBSTRUCTIVE SLEEP APNEA (OSA)
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS
   ICU Care
   Nutrition: TPN started, have not had ability to use GI tract at this
   time
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2190-11-1**] 03:30 PM
   Arterial Line - [**2190-11-1**] 06:00 PM
   Multi Lumen - [**2190-11-2**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2190-11-06 07:18:00 Physician Resident Progress Note
Chief Complaint: This is a 69yo man with history of CABG, atrial
   fibrillation with pacer/defibrillator on coumadin, systolic CHF (most
   recent echo in [**2188**] improved), and DMII who p/w acute onset of R-sided
   flank pain on [**2190-10-30**].   Abdominal CT showed evidence of right
   perirenal bleed possibly from a renal cyst.  Patient transferred to ICU
   for multiple reasons including possible UGIB, hypoxia and possible AMI.
   24 Hour Events:
 EKG - At [**2190-11-5**] 04:00 PM
   - started on TPN yesterday
   - sputum culture showed:
         >25 PMNs and <10 epithelial cells/100X field.
         3+  GPCs
         3+  BUDDING YEAST WITH PSEUDOHYPHAE.
   -urine culture > 100,000 enterococcus.
   - Azithromycin d/c'd.  Added Cipro for double coverage for Klebsiella
   pneumonia.
   - Lactulose enema attempted, pt unable to tolerate lying on side due to
   CVVH.  NG output decrerased and po lactulose initiated
   - Pt family agreed to Research Protocol P-59:  Molecular Epidemiology
   of AcuteRespiratory Distress Syndrome and Septic Shock.
   - no new renal or urology recs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2190-11-3**] 10:03 PM
   Vancomycin - [**2190-11-5**] 03:00 PM
   Ceftriaxone - [**2190-11-5**] 08:08 PM
   Ciprofloxacin - [**2190-11-5**] 10:05 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-11-5**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-6**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 89 (86 - 107) bpm
   BP: 109/54(70) {94/48(61) - 141/71(91)} mmHg
   RR: 18 (17 - 21) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 70 Inch
    CVP: 16 (8 - 16)mmHg
   Total In:
                                                                  7,559 mL
                                                                  2,070 mL
   PO:
   TF:
   IVF:
                                                                  7,307 mL
                                                                  1,774 mL
   Blood products:
   Total out:
                                                                  8,168 mL
                                                                  2,154 mL
   Urine:
                                                                     95 mL
                                                                    100 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                   -609 mL
                                                                    -79 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.39/40/103/23/0
   Ve: 10.3 L/min
   PaO2 / FiO2: 206
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   172 K/uL
   8.2 g/dL
   237 mg/dL
   2.9 mg/dL
   23 mEq/L
   4.4 mEq/L
   32 mg/dL
   102 mEq/L
   137 mEq/L
   25.5 %
   14.6 K/uL
        [image002.jpg]
                             [**2190-11-5**]  01:00 PM
                             [**2190-11-5**]  01:10 PM
                             [**2190-11-5**]  04:00 PM
                             [**2190-11-5**]  04:21 PM
                             [**2190-11-5**]  04:33 PM
                             [**2190-11-5**]  09:43 PM
                             [**2190-11-5**]  09:45 PM
                             [**2190-11-5**]  11:50 PM
                            [**2190-11-6**]  04:15 AM
                            [**2190-11-6**]  04:22 AM
   WBC
   14.6
   Hct
   25.5
   Plt
   172
   Cr
   3.1
   3.0
   2.9
   TCO2
   25
   26
   25
   27
   25
   Glucose
   183
   195
   201
   212
   237
   Other labs: PT / PTT / INR:14.1/24.3/1.2, CK / CKMB /
   Troponin-T:266/7/0.31, ALT / AST:28/41, Alk Phos / T Bili:91/1.0,
   Differential-Neuts:89.9 %, Lymph:5.1 %, Mono:3.8 %, Eos:0.9 %, Lactic
   Acid:1.5 mmol/L, Ca++:7.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 OBSTRUCTIVE SLEEP APNEA (OSA)
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS
   This is a 69yo man with history of CABG, atrial fibrillation with
   pacer/defibrillator on coumadin, systolic CHF (most recent echo in [**2188**]
   improved), and DMII who p/w acute onset of R-sided flank pain on
   [**2190-10-30**].   Abdominal CT showed evidence of right perirenal bleed
   possibly from a renal cyst.  Patient transferred to ICU for multiple
   reasons including possible UGIB, hypoxia and possible AMI.
   ## Hypoxia
   Likely multifactorial in etiology.  Has underlying Klebsiella
   pneumonia; further cx by fluid overload from receiving multiple BP (has
   CHF) and abdominal distension.
   -Blood gas looks good this AM even with PEEP reduced to 15, and  40%
   FiO2; could continue decrease PEEP to 10, with target of getting to 5
   as tolerated to keep PO2 sats > 90%.  Improvement in consolidation
   suggests that this improvement in respiratory status is due to
   resolution of underlying infection.
   -Sputum gram stain shows gram negative rods and gram positive cocci;
   being covered with azithromycin and ceftriaxone which should cover both
   gram + and klebsiella and atypicals.  WBC plateau'd and now falling;
   continue  ceftriaxone + azithromycin (day 5 of 8 day course).
   -Continue CVVH, can adjust rate to keep at balance or just slightly
   negative as per renal recs.  No need to aggressively diurese.
   ## Acute / Chronic Renal Failure: Creatinine continuing to resolve,
   trended down to 3.6.  Cause of ARF likely secondary to ATN secondary to
   sustained hypoTN as well as intraparenchymal bleed.  Given chronic
   kidney disease, is more subject to ATN:  in setting of GI bleed, may
   have been hypotensive, which sustained, may have led to ATN.
   Secondly, the rupture of the renal cyst may have further compromised
   renal function; may have reached new baseline.  Continues to be
   oliguric (made 5cc /hr of urine yesterday).
   - Renal following: undergoing CVVH.  Probably may have reached new
   baseline.
   - Renally dosing meds, avoiding nephrotoxic agents.
   -Continue to follow creatinines
   ## Retroperitoneal Bleed: patient with intraparrenchymal / subcapsular
   bleed of right kidney possibly secondary to cyst rupture in setting of
   high INR from coumadin.  HCTs are currently stable. Patient is now s/p
   4 units PRBC
s and 7 units FFP to help support hemodynamics and reverse
   INR.
   - daily HCTs.  PRBC transfusion for goal > 25 and FFP transfusion for
   INR goal < 1.9
   - holding ASA and coumadin
   .
   ## Abdominal distension
 likely secondary to ileus: KUB shows lots of
   air + stool in bowel:
   -Aggressive bowel regimen:   PR bisacodyl, have tried soap suds enema.
   If still failing, can try milk + molasses (brown cow)
   -Reglan for short term period (3 days)
   ## Fevers/leukocytosis - Continues to be intermittently febrile but has
   largely resolved.
   -Sources including CAP, UTI as urine is growing enterococcus.
   Enterococcus is sensitive to ampicillin; can switch to this and
   continue to finish 10 day course.
   -1/4 bottles is growing GPCs is likely to be contaminant; Follow-up
   blood cultures and sensitivities.
   - Continue azithromycin + ceftriaxone for CAP/klebsiella PNA (day 5 of
   8 day course). Follow up sputum cultures.
   .
   ## Concern for UGIB:  Multiple times coffee-ground material suctioned
   from OG tube.  Doesn
t seem to have an active UG bleed as HCT is stable
   and does not look like frank blood.  Likely secondary to old prior
   bleed; source unclear.
   .
   -Would continue IV PPI
   -maintain active type and screen
   ## Atrial Fibrillation with RVR:  patient with irregular wide complex
   tachycardia up to 140
s becoming symptomatic with chest discomfort and
   dyspnea.
   - EP saw patient and felt pacer was functioning appropriately
   - currently on metoprolol 5 mg IV q6 hrs: rate controlled with HRs <
   100
   .
   # DMII: Diagnosed seven years ago, most recent HgA1C: 8.5% as of [**Month (only) 435**]
   [**2190**].  Went up on lantus yesterday.  Sugars over past 24 hours have
   been 170-230.
   #Hypothyroidism:  continue levothyroxine sodium 125 mcg
   #Gout: allopurinol 100 mg every other day given poor GFR (renally
   dosed)
   # FEN: No IVF, replete electrolytes; if BM occurs today can start TF;
   if no BM may have to consider TPN.
   # Prophylaxis: Pneumoboots, IV PPI
   # Access: IJ, peripherals, HD line
   # Code: full
   # Communication: Patient, patient's wife [**Name (NI) **] [**Name (NI) 10486**] [**Telephone/Fax (1) 10487**]
   # Disposition: ICU
   ICU Care
   Nutrition:
   TPN without Lipids - [**2190-11-5**] 06:00 PM 42 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2190-11-1**] 03:30 PM
   Arterial Line - [**2190-11-1**] 06:00 PM
   Multi Lumen - [**2190-11-2**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-11-06 11:58:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2190-11-5**] 04:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2190-11-3**] 10:03 PM
   Ceftriaxone - [**2190-11-5**] 08:08 PM
   Ciprofloxacin - [**2190-11-5**] 10:05 PM
   Vancomycin - [**2190-11-6**] 11:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Calcium Gluconate (CRRT) - 2 grams/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-11-6**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Parenteral nutrition
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2190-11-6**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.2
C (98.9
   HR: 92 (86 - 107) bpm
   BP: 102/52(66) {94/48(61) - 141/71(91)} mmHg
   RR: 18 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 70 Inch
   CVP: 16 (16 - 16)mmHg
   Total In:
                                                                  7,559 mL
                                                                  3,823 mL
   PO:
   TF:
   IVF:
                                                                  7,307 mL
                                                                  3,335 mL
   Blood products:
   Total out:
                                                                  8,168 mL
                                                                  4,051 mL
   Urine:
                                                                     95 mL
                                                                    120 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                   -609 mL
                                                                   -228 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 25 cmH2O
   SpO2: 100%
   ABG: 7.41/38/111/23/0
   Ve: 10.6 L/min
   PaO2 / FiO2: 222
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   172 K/uL
   276 mg/dL
   2.6 mg/dL
   23 mEq/L
   4.5 mEq/L
   31 mg/dL
   104 mEq/L
   139 mEq/L
   25.5 %
   14.6 K/uL
        [image002.jpg]
                             [**2190-11-5**]  04:00 PM
                             [**2190-11-5**]  04:21 PM
                             [**2190-11-5**]  04:33 PM
                             [**2190-11-5**]  09:43 PM
                             [**2190-11-5**]  09:45 PM
                             [**2190-11-5**]  11:50 PM
                            [**2190-11-6**]  04:15 AM
                            [**2190-11-6**]  04:22 AM
                            [**2190-11-6**]  10:18 AM
                            [**2190-11-6**]  10:33 AM
   WBC
   14.6
   Hct
   25.5
   Plt
   172
   Cr
   3.1
   3.0
   2.9
   2.6
   TCO2
   26
   25
   27
   25
   25
   Glucose
   195
   201
   212
   237
   276
   Other labs: PT / PTT / INR:14.1/24.3/1.2, CK / CKMB /
   Troponin-T:266/7/0.31, ALT / AST:28/41, Alk Phos / T Bili:91/1.0,
   Differential-Neuts:89.9 %, Lymph:5.1 %, Mono:3.8 %, Eos:0.9 %, Lactic
   Acid:1.5 mmol/L, Ca++:7.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 OBSTRUCTIVE SLEEP APNEA (OSA)
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS
   69 yo male with renal failure in the setting of right renal hemorrhage
   in area of previous cyst.  This retroperitoneal bleed has been
   complicated by hypoxemic respiratory failure as well as persistent
   renal failure.
   1)respiratory failure
 Contuinue current level of PEEP --> likely has
   significant chest wall/abdominal pressure to overcome.  Cont to remain
   negative with CVVH.  Will lighten sedation today.
   2)Renal Failure
Cont CVVH, some improvment in urine output
   3)Hypotension
Remains on pressors.  Change abx to Unasyn and cipro to
   cover
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2190-11-5**] 06:00 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2190-11-1**] 03:30 PM
   Arterial Line - [**2190-11-1**] 06:00 PM
   Multi Lumen - [**2190-11-2**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2190-11-07 06:47:00 Physician Resident Progress Note
Chief Complaint: This is a 69yo man with history of CABG, atrial
   fibrillation with pacer/defibrillator on coumadin, systolic CHF (most
   recent echo in [**2188**] improved), and DMII who p/w acute onset of R-sided
   flank pain on [**2190-10-30**].   Abdominal CT showed evidence of right
   perirenal bleed possibly from a renal cyst.  Patient transferred to ICU
   for multiple reasons including possible UGIB, hypoxia and possible AMI.
   24 Hour Events:
   [**11-5**]
   - started on TPN today
   - sputum culture showed
   - Azithromycin d/c'd.  Added Cipro for double coverage for Klebsiella
   pneumonia.
   - Lactulose enema attempted, pt unable to tolerate lying on side due to
   CVVH.  NG output decrerased and po lactulose initiated
   - Pt family agreed to Research Protocol P-59:  Molecular Epidemiology
   of AcuteRespiratory Distress Syndrome and Septic Shock.
   - no new renal or urology recs
   [**11-6**]
   -reduced sedation during the day, Levophed down to 0.04
   -glucose elevated during the day, peak at 270.
   -PEEP held steady, O2 reduced from 50% to 40%.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2190-11-5**] 08:08 PM
   Vancomycin - [**2190-11-6**] 11:00 AM
   Ciprofloxacin - [**2190-11-6**] 09:29 PM
   Ampicillin/Sulbactam (Unasyn) - [**2190-11-6**] 11:56 PM
   Infusions:
   Fentanyl (Concentrate) - 65 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Midazolam (Versed) - 3.5 mg/hour
   Calcium Gluconate (CRRT) - 2 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-11-6**] 07:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-7**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 98 (87 - 109) bpm
   BP: 125/58(76) {94/48(61) - 144/69(90)} mmHg
   RR: 15 (14 - 21) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Height: 70 Inch
    CVP: 15 (15 - 15)mmHg
   Total In:
                                                                  8,518 mL
                                                                  2,512 mL
   PO:
   TF:
   IVF:
                                                                  7,446 mL
                                                                  2,164 mL
   Blood products:
   Total out:
                                                                  9,450 mL
                                                                  2,460 mL
   Urine:
                                                                    205 mL
                                                                     80 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                   -932 mL
                                                                     52 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: 7.38/38/128/20/-1
   Ve: 10.9 L/min
   PaO2 / FiO2: 320
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   203 K/uL
   8.1 g/dL
   236 mg/dL
   2.4 mg/dL
   20 mEq/L
   4.3 mEq/L
   28 mg/dL
   103 mEq/L
   139 mEq/L
   25.9 %
   15.5 K/uL
        [image002.jpg]
                            [**2190-11-6**]  04:15 AM
                            [**2190-11-6**]  04:22 AM
                            [**2190-11-6**]  10:18 AM
                            [**2190-11-6**]  10:33 AM
                            [**2190-11-6**]  04:21 PM
                            [**2190-11-6**]  04:45 PM
                            [**2190-11-6**]  10:00 PM
                            [**2190-11-6**]  10:01 PM
                            [**2190-11-7**]  04:00 AM
                            [**2190-11-7**]  04:24 AM
   WBC
   14.6
   15.5
   Hct
   25.5
   25.9
   Plt
   172
   203
   Cr
   2.9
   2.6
   2.5
   2.5
   2.4
   TCO2
   25
   25
   24
   24
   23
   Glucose
   237
   276
   231
   228
   236
   Other labs: PT / PTT / INR:14.2/25.4/1.2, CK / CKMB /
   Troponin-T:266/7/0.31, ALT / AST:28/41, Alk Phos / T Bili:91/1.0,
   Differential-Neuts:89.9 %, Lymph:5.1 %, Mono:3.8 %, Eos:0.9 %, Lactic
   Acid:1.5 mmol/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: [**11-7**]:   128* 38 7.38 23
   Imaging: [**11-5**]:
   No evidence of overt CHF. Improved right upper lobe consolidation and
   stable
   infrahilar opacities likely atelectasis.
   Microbiology: [**11-4**] sputum culture:  3+ gram + cocci in pairs and
   chains, 3+ budding yeast w/ pseudohyphae
   [**11-6**] resp culture: sparse growth of gram (-) rod #1 and #2, sparse
   growth of yeast
   urine culture: enterococcus sensitive to vanc, ampicillin
   [**11-1**] resp culture: pan-sensitive klebsiella
   Assessment and Plan
   This is a 69yo man with history of CABG, atrial fibrillation with
   pacer/defibrillator on coumadin, systolic CHF (most recent echo in [**2188**]
   improved), and DMII who p/w acute onset of R-sided flank pain on
   [**2190-10-30**].   Abdominal CT showed evidence of right perirenal bleed
   possibly from a renal cyst.  Patient transferred to ICU for multiple
   reasons including possible UGIB, hypoxia and possible AMI.
   ## Hypoxia
   Likely multifactorial in etiology.  Has underlying Klebsiella
   pneumonia; further cx by fluid overload from receiving multiple BP (has
   CHF) and abdominal distension.
   -Required increased vent settings overnight
 O2 increased from 40-50%,
   PEEP from [**1-11**].   (pO2 dropped to 60 - 80).   Is doing well this AM
   with blood gas of 128* 38 7.38 23.  Today, try bringing down PEEP to
   5.
   -Sputum gram stain shows Klebsiella, urine enterococcus
 sensitivities
   back.  Continue Unasyn and Cipro
   -Continue CVVH, can adjust rate to keep at balance or just slightly
   negative as per renal recs.  No need to aggressively diurese.
   ##Mental Status
 will attempt to wean sedation.
   ## Acute / Chronic Renal Failure: Creatinine continuing to resolve,
   trended down to 2.4.  Cause of ARF likely secondary to ATN secondary to
   sustained hypoTN as well as intraparenchymal bleed.  Given chronic
   kidney disease, is more subject to ATN:  in setting of GI bleed, may
   have been hypotensive, which sustained, may have led to ATN.
   Secondly, the rupture of the renal cyst may have further compromised
   renal function; may have reached new baseline.  Urine output continuing
   to increase:  205 ccs over 24 hrs.
   - Renal following: undergoing CVVH.
   - Renally dosing meds, avoiding nephrotoxic agents.
   -Continue to follow creatinines
   ## Retroperitoneal Bleed: patient with intraparrenchymal / subcapsular
   bleed of right kidney possibly secondary to cyst rupture in setting of
   high INR from coumadin.  HCTs are currently stable. Patient is now s/p
   4 units PRBC
s and 7 units FFP to help support hemodynamics and reverse
   INR.
   - daily HCTs.  PRBC transfusion for goal > 25 and FFP transfusion for
   INR goal < 1.9
   - holding ASA and coumadin
   ## Abdominal distension
 likely secondary to ileus: KUB shows lots of
   air + stool in bowel:
   -Attempted lactulose enema yesterday, but CVVH did not tolerate turning
   to side.
   -Continuing aggressive PO bowel regimen.
   ## Fevers/leukocytosis - Continues to be intermittently febrile but has
   largely resolved.
   -Sources including CAP, UTI as urine is growing enterococcus.
   Antibiotic regimen as above.
   .
   ## Concern for UGIB:  Multiple times coffee-ground material suctioned
   from OG tube.  Hematocrit stable.  Likely secondary to old prior bleed;
   source unclear.   [**Name2 (NI) 133**] continue to follow HCT.
   -Will continue IV PPI
   -maintain active type and screen
   ## Atrial Fibrillation with RVR:  patient with irregular wide complex
   tachycardia up to 140
s becoming symptomatic with chest discomfort and
   dyspnea.
   - EP saw patient and felt pacer was functioning appropriately
   - currently on metoprolol 5 mg IV q6 hrs: rate controlled with HRs <
   100
   .
   # DMII: Diagnosed seven years ago, most recent HgA1C: 8.5% as of [**Month (only) 435**]
   [**2190**].  Went up on lantus yesterday.  Likely because TPN has been
   initiated, sugars over past 24 hours have been 200s - 300s.  Increase
   lantus from 48 - 52.
   #Hypothyroidism:  continue levothyroxine sodium 125 mcg
   #Gout: allopurinol 100 mg every other day given poor GFR (renally
   dosed)
   # FEN: Started on TPN yesterday.  No IVF, replete electrolytes as
   necessary.
   # Prophylaxis: Pneumoboots, IV PPI
   # Access: IJ, peripherals, HD line
   # Code: full
   # Communication: Patient, patient's wife [**Name (NI) **] [**Name (NI) 10486**] [**Telephone/Fax (1) 10487**]
   # Disposition: ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2190-11-6**] 06:00 PM 54 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2190-11-1**] 03:30 PM
   Arterial Line - [**2190-11-1**] 06:00 PM
   Multi Lumen - [**2190-11-2**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-11-07 11:18:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, retaroperitoneal bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Remains on PEEP of 15
   24 Hour Events:
   Cr contniues to improve
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2190-11-5**] 08:08 PM
   Vancomycin - [**2190-11-6**] 11:00 AM
   Ciprofloxacin - [**2190-11-6**] 09:29 PM
   Ampicillin/Sulbactam (Unasyn) - [**2190-11-7**] 08:00 AM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-11-7**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Parenteral nutrition
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2190-11-7**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.8
   HR: 92 (87 - 109) bpm
   BP: 86/46(59) {86/46(59) - 144/69(90)} mmHg
   RR: 14 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 70 Inch
   CVP: 15 (15 - 15)mmHg
   Total In:
                                                                  8,518 mL
                                                                  3,404 mL
   PO:
   TF:
   IVF:
                                                                  7,446 mL
                                                                  2,810 mL
   Blood products:
   Total out:
                                                                  9,450 mL
                                                                  3,332 mL
   Urine:
                                                                    205 mL
                                                                     95 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                   -932 mL
                                                                     72 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 520 (520 - 520) mL
   Vt (Spontaneous): 928 (928 - 928) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 3
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: 7.38/38/128/20/-1
   Ve: 11.9 L/min
   PaO2 / FiO2: 320
   Physical Examination
   General Appearance: intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   203 K/uL
   236 mg/dL
   2.4 mg/dL
   20 mEq/L
   4.3 mEq/L
   28 mg/dL
   103 mEq/L
   139 mEq/L
   25.9 %
   15.5 K/uL
        [image002.jpg]
                            [**2190-11-6**]  04:15 AM
                            [**2190-11-6**]  04:22 AM
                            [**2190-11-6**]  10:18 AM
                            [**2190-11-6**]  10:33 AM
                            [**2190-11-6**]  04:21 PM
                            [**2190-11-6**]  04:45 PM
                            [**2190-11-6**]  10:00 PM
                            [**2190-11-6**]  10:01 PM
                            [**2190-11-7**]  04:00 AM
                            [**2190-11-7**]  04:24 AM
   WBC
   14.6
   15.5
   Hct
   25.5
   25.9
   Plt
   172
   203
   Cr
   2.9
   2.6
   2.5
   2.5
   2.4
   TCO2
   25
   25
   24
   24
   23
   Glucose
   237
   276
   231
   228
   236
   Other labs: PT / PTT / INR:14.2/25.4/1.2, CK / CKMB /
   Troponin-T:266/7/0.31, ALT / AST:28/41, Alk Phos / T Bili:91/1.0,
   Differential-Neuts:89.9 %, Lymph:5.1 %, Mono:3.8 %, Eos:0.9 %, Lactic
   Acid:1.5 mmol/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 OBSTRUCTIVE SLEEP APNEA (OSA)
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS
   69 yo male with renal failure in the setting of right renal hemorrhage
   in area of previous cyst.  This retroperitoneal bleed has been
   complicated by hypoxemic respiratory failure as well as persistent
   renal failure.
   1)respiratory failure
 Abdomen feels less tense and starting to stool -
   may be able to tolerate lower PEEP at this point.  Off of sedation.
   Getting Unasyn for Klebsiella in sputum - tomorrow will be last day.
   2)Renal Failure
Off CVVH - will discuss with reanl if we want to
   continue today
   3)Hypotension
Remains on pressors.  Change abx to Unasyn and cipro to
   cover Klebsiella and enteerococcus
   4)RP bleed: Hcts stable.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2190-11-6**] 06:00 PM 54 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2190-11-1**] 03:30 PM
   Arterial Line - [**2190-11-1**] 06:00 PM
   Multi Lumen - [**2190-11-2**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2190-11-08 06:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2190-11-7**] 12:30 PM
 EKG - At [**2190-11-8**] 02:53 AM
 FEVER - 101.5
F - [**2190-11-7**] 12:00 PM
   -decreased the PEEP from 15 -> 12:  repeat ABG was 7.39, 36, 132.
   Decreased again to 10.
   saturating well; can consider going down on PEEP tomorrow AM
   -CVVH temporarily stopped this morning due to clotting of filter;
   filter changed. while CVVH stopped, fever unmasked ~101.  Pan-cultured
   again.  CVVH restarted, and stopped again due to fiter clotting.
   -CVVH recalculated for net balance of 0 taken off (doesnt seem to be
   very volume overloaded)
   -lantus increased from 48 -> 52, but sugars still high in the 300s;
   started on insulin drip; talk to nutrition tomorrow AM since should be
   getting adequate insulin in TPN.  also will need to talk to them about
   started tube feeds; consult ordered today.
   -has required pressors on and off
   - episode of wide complex Afib confirmed by EP, resolved with 10mg IV
   lopressor
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2190-11-5**] 08:08 PM
   Vancomycin - [**2190-11-6**] 11:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2190-11-7**] 05:00 PM
   Ciprofloxacin - [**2190-11-7**] 10:01 PM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Midazolam (Versed) - 1 mg/hour
   Insulin - Regular - 7 units/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-11-7**] 08:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-8**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38
C (100.4
   HR: 86 (85 - 108) bpm
   BP: 136/60(80) {86/46(59) - 155/66(90)} mmHg
   RR: 23 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 70 Inch
    CVP: 12 (10 - 16)mmHg
   Total In:
                                                                  6,540 mL
                                                                    491 mL
   PO:
   TF:
   IVF:
                                                                  5,180 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                  5,913 mL
                                                                     85 mL
   Urine:
                                                                    185 mL
                                                                     85 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                    627 mL
                                                                    406 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 520 (520 - 520) mL
   Vt (Spontaneous): 510 (510 - 928) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 30
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: 7.42/33/134/21/-1
   Ve: 14.1 L/min
   PaO2 / FiO2: 335
   Physical Examination
   Cardiovascular: Gen: intubated, sedated
   CV: RRR
   Lungs: Clear anteriorly
   Abd: distended, nontense, ABS
   Ext: 2+ edema bilaterally
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   174 K/uL
   7.5 g/dL
   201 mg/dL
   3.1 mg/dL
   21 mEq/L
   4.4 mEq/L
   42 mg/dL
   105 mEq/L
   138 mEq/L
   24.1 %
   11.2 K/uL
        [image002.jpg]
                            [**2190-11-6**]  10:00 PM
                            [**2190-11-6**]  10:01 PM
                            [**2190-11-7**]  04:00 AM
                            [**2190-11-7**]  04:24 AM
                            [**2190-11-7**]  11:16 AM
                            [**2190-11-7**]  11:31 AM
                            [**2190-11-7**]  06:11 PM
                            [**2190-11-7**]  06:26 PM
                            [**2190-11-8**]  01:26 AM
                            [**2190-11-8**]  02:16 AM
   WBC
   15.5
   11.2
   Hct
   25.9
   24.1
   Plt
   203
   174
   Cr
   2.5
   2.4
   2.8
   2.9
   3.1
   TCO2
   24
   23
   22
   23
   22
   Glucose
   [**Telephone/Fax (3) 10677**]76
   201
   Other labs: PT / PTT / INR:14.4/25.5/1.3, CK / CKMB /
   Troponin-T:266/7/0.31, ALT / AST:28/41, Alk Phos / T Bili:91/1.0,
   Differential-Neuts:89.9 %, Lymph:5.1 %, Mono:3.8 %, Eos:0.9 %, Lactic
   Acid:1.0 mmol/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR - R lower lobe opacity, blunting of R lower lobe
   Microbiology: Sputum - [**11-7**] - GPC in pairs and clusters
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 OBSTRUCTIVE SLEEP APNEA (OSA)
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS
   Assessment and Plan
   This is a 69yo man with history of CABG, atrial fibrillation with
   pacer/defibrillator on coumadin, systolic CHF (most recent echo in [**2188**]
   improved), and DMII who p/w acute onset of R-sided flank pain on
   [**2190-10-30**].   Abdominal CT showed evidence of right perirenal bleed
   possibly from a renal cyst.  Patient transferred to ICU for multiple
   reasons including possible UGIB, hypoxia and possible AMI.
   ## Hypoxia:
   Multifactorial: Klebsiella pneumonia; fluid overload from receiving
   multiple BP (has CHF); abdominal distension.
   -Pulm status improving - PEEP from 15-10.  PaO2 stable in 130s.
   Continue to titrate down PEEP, although due to his abdominal girth, may
   require some level of PEEP.
   - treatment for klebsiella PNA and enterococcus UTI complete
   - start Vancomycin empirically for GPCs on sputum GS
   -  No need to aggressively diurese, pre renal.  CVVH - on hold due to
   filter clotting.
   ##Mental Status
 will attempt to wean sedation.
   ## Acute / Chronic Renal Failure:  [**3-1**] to ATN from sustained
   hypotension and intraparenchymal bleed on chornic kidney disease.
   Secondly, the rupture of the renal cyst may have further compromised
   renal function; may have reached new baseline.  Creatinine 3.1 from 2.4
   yesterday.   Making some urine:  185 ccs over 24 hrs.
   - Renal following: d/w regarding restarting CVVH vs 24 hr holiday.
   - Renally dosing meds, avoiding nephrotoxic agents.
   ## Retroperitoneal Bleed: patient with intraparrenchymal / subcapsular
   bleed of right kidney possibly secondary to cyst rupture in setting of
   high INR from coumadin.  HCTs are currently stable. Patient is now s/p
   4 units PRBC
s and 7 units FFP to help support hemodynamics and reverse
   INR.   Hct tredning down slowly likely a combination of slow blood loss
   and reduced reticulyte count given renal disease.
   - check reticulocyte count
   - f/u hemolysis labs (? increased lysis due to CVVH)
   - guaic stools and NG output
   - Hct 24.1 today.  Transfuse 1 unit.
   - daily HCTs.  PRBC transfusion for goal > 25 and FFP transfusion for
   INR goal < 1.9
   - holding ASA and coumadin
   ## Abdominal distension
 likely secondary to ileus: KUB shows lots of
   air + stool in bowel:
   -Attempted lactulose enema yesterday, but CVVH did not tolerate turning
   to side.
   -Continuing aggressive PO bowel regimen
 po narcan
   ## Fevers/leukocytosis - Spiked temp again yesterday.
   -Sources including CAP, UTI as urine is growing enterococcus.
   Antibiotic regimen as above.
   - f/u pan culture
   - may be reaction to CVVH, given mulitple filter clots.
   ## Concern for UGIB:  Multiple times coffee-ground material suctioned
   from OG tube.  Hematocrit stable.  Likely secondary to old prior bleed;
   source unclear.   [**Name2 (NI) 133**] continue to follow HCT.
   -Will continue IV PPI
   -maintain active type and screen
   ## Atrial Fibrillation with RVR:  patient with irregular wide complex
   tachycardia up to 140
s becoming symptomatic with chest discomfort and
   dyspnea.  Had another episode this morning.  Will continue to rate
   control as needed.
   - EP saw patient and felt pacer was functioning appropriately
   - control HR with  metoprolol 5 mg IV prn
   # DMII: Diagnosed seven years ago, most recent HgA1C: 8.5% as of [**Month (only) 435**]
   [**2190**].  Likely because TPN has been initiated, sugars over past 24 hours
   have been 200s - 300s.  Home dose Lantus 44.  - Currently getting 52
   units.
   - started on insulin drip for high sugars.
   #Hypothyroidism:  continue levothyroxine sodium 125 mcg
   #Gout: allopurinol 100 mg every other day given poor GFR (renally
   dosed)
   # FEN: TPN. Avoiding IVF, replete electrolytes as necessary.
   # Prophylaxis: Pneumoboots, IV PPI
   # Access: IJ, peripherals, HD line
   # Code: full
   # Communication: Patient, patient's wife [**Name (NI) **] [**Name (NI) 10486**] [**Telephone/Fax (1) 10487**]
   # Disposition: ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2190-11-7**] 06:00 PM 54 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2190-11-1**] 03:30 PM
   Arterial Line - [**2190-11-1**] 06:00 PM
   Multi Lumen - [**2190-11-2**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-11-08 10:19:00 Physician Attending Progress Note
Chief Complaint: Renal Failure, Respiratory Failure, RP bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Had episode of afib with aberrency this AM with rate in 140s
   24 Hour Events:
 PAN CULTURE - At [**2190-11-7**] 12:30 PM
 EKG - At [**2190-11-8**] 02:53 AM
 FEVER - 101.5
F - [**2190-11-7**] 12:00 PM
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2190-11-5**] 08:08 PM
   Vancomycin - [**2190-11-6**] 11:00 AM
   Ciprofloxacin - [**2190-11-7**] 10:01 PM
   Ampicillin/Sulbactam (Unasyn) - [**2190-11-8**] 08:15 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Insulin - Regular - 6 units/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2190-11-8**] 08:05 AM
   Pantoprazole (Protonix) - [**2190-11-8**] 08:15 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: Parenteral nutrition
   Respiratory: mechanical ventilation
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2190-11-8**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.9
C (100.2
   HR: 90 (85 - 160) bpm
   BP: 126/60(80) {89/47(60) - 170/80(108)} mmHg
   RR: 26 (14 - 31) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 109.6 kg (admission): 115 kg
   Height: 70 Inch
   CVP: 13 (10 - 22)mmHg
   Total In:
                                                                  6,540 mL
                                                                  1,092 mL
   PO:
   TF:
   IVF:
                                                                  5,180 mL
                                                                    491 mL
   Blood products:
   Total out:
                                                                  5,913 mL
                                                                    365 mL
   Urine:
                                                                    185 mL
                                                                    165 mL
   NG:
                                                                    200 mL
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                    627 mL
                                                                    727 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 480 (480 - 720) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 96%
   ABG: 7.42/33/134/21/-1
   Ve: 11.8 L/min
   PaO2 / FiO2: 335
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   scattered)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   174 K/uL
   201 mg/dL
   3.1 mg/dL
   21 mEq/L
   4.4 mEq/L
   42 mg/dL
   105 mEq/L
   138 mEq/L
   24.1 %
   11.2 K/uL
        [image002.jpg]
                            [**2190-11-6**]  10:00 PM
                            [**2190-11-6**]  10:01 PM
                            [**2190-11-7**]  04:00 AM
                            [**2190-11-7**]  04:24 AM
                            [**2190-11-7**]  11:16 AM
                            [**2190-11-7**]  11:31 AM
                            [**2190-11-7**]  06:11 PM
                            [**2190-11-7**]  06:26 PM
                            [**2190-11-8**]  01:26 AM
                            [**2190-11-8**]  02:16 AM
   WBC
   15.5
   11.2
   Hct
   25.9
   24.1
   Plt
   203
   174
   Cr
   2.5
   2.4
   2.8
   2.9
   3.1
   TCO2
   24
   23
   22
   23
   22
   Glucose
   [**Telephone/Fax (3) 10677**]76
   201
   Other labs: PT / PTT / INR:14.4/25.5/1.3, CK / CKMB /
   Troponin-T:266/7/0.31, ALT / AST:28/41, Alk Phos / T Bili:91/0.3,
   Differential-Neuts:89.9 %, Lymph:5.1 %, Mono:3.8 %, Eos:0.9 %, Lactic
   Acid:1.0 mmol/L, LDH:313 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 OBSTRUCTIVE SLEEP APNEA (OSA)
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS
   69 yo male with renal failure in the setting of right renal hemorrhage
   in area of previous cyst.  This retroperitoneal bleed has been
   complicated by hypoxemic respiratory failure as well as persistent
   renal failure.
   1)respiratory failure
 Will hold on further decrease in PEEP for now
   given desat with tachycardia this AM
   2)New fever today: No evidence of new VAP on CXR.  Cultures pending.
   Unasyn completed, on cipro.
   3)Renal Failure
Off CVVH - will discuss with reanl if we want to
   continue today
   4)Hypotension
 Needing pressors still - could be due to ongoing sepsis
   5)RP bleed: Hcts slowly trending down --> 1 unit pRBCs today
   6)Afib: Currently with better rate. Cont amio.  prn Lopressor.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2190-11-7**] 06:00 PM 54 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2190-11-1**] 03:30 PM
   Arterial Line - [**2190-11-1**] 06:00 PM
   Multi Lumen - [**2190-11-2**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2190-11-09 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 UNPLANNED EXTUBATION (NON-PATIENT INITIATED) - At [**2190-11-8**] 09:05 PM
   - R side HD line has been pulled 2 cm.
   - Pustular fluid around site of LIJ
   - CVVH filter clotted again, giving it one more try tonight
   - sputum cultures grow  yeast, urine - probable enterococcus
   - Hct bumped appropriately after 1 unit this AM
   - started on po narcan
   - No new renal recs.
   - Hemolysis labs negative, retic appropriate
   - self extubated, had difficulty with reintubation.  HR in 140s BP to
   200s systolic.  Given Metoprolol 5mg IV X 1.
   - trending cardiac enzymes
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2190-11-7**] 10:01 PM
   Ampicillin/Sulbactam (Unasyn) - [**2190-11-8**] 08:15 AM
   Vancomycin - [**2190-11-8**] 03:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 35 mcg/hour
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Metoprolol - [**2190-11-8**] 08:05 AM
   Pantoprazole (Protonix) - [**2190-11-8**] 08:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-9**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.7
   HR: 86 (74 - 160) bpm
   BP: 124/58(76) {77/43(54) - 187/92(119)} mmHg
   RR: 24 (18 - 31) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 109.6 kg (admission): 115 kg
   Height: 70 Inch
    CVP: 14 (7 - 288)mmHg
   Total In:
                                                                  6,204 mL
                                                                  2,974 mL
   PO:
   TF:
   IVF:
                                                                  4,353 mL
                                                                  2,528 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,905 mL
                                                                  2,784 mL
   Urine:
                                                                    470 mL
                                                                    175 mL
   NG:
                                                                    475 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  2,299 mL
                                                                    190 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 520 (520 - 520) mL
   Vt (Spontaneous): 576 (480 - 640) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI: 57
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.45/33/153/22/0
   Ve: 15.6 L/min
   PaO2 / FiO2: 255
   Physical Examination
   Cardiovascular: Gen: Intubated, sedated
   CV: RRR
   Lungs: reduced breath sounds in lower lung fields
   Abd: distended, soft, ABS
   Ext: 1+ edema bilaterally
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   199 K/uL
   8.7 g/dL
   107 mg/dL
   2.7 mg/dL
   22 mEq/L
   4.1 mEq/L
   44 mg/dL
   106 mEq/L
   139 mEq/L
   26.7 %
   12.1 K/uL
        [image002.jpg]
                            [**2190-11-8**]  10:43 AM
                            [**2190-11-8**]  10:48 AM
                            [**2190-11-8**]  05:28 PM
                            [**2190-11-8**]  05:32 PM
                            [**2190-11-8**]  09:53 PM
                            [**2190-11-8**]  10:02 PM
                            [**2190-11-9**]  01:06 AM
                            [**2190-11-9**]  03:49 AM
                            [**2190-11-9**]  04:01 AM
                            [**2190-11-9**]  05:56 AM
   WBC
   12.1
   Hct
   26.8
   26.7
   Plt
   199
   Cr
   3.3
   2.7
   TropT
   0.40
   TCO2
   22
   23
   22
   22
   23
   24
   Glucose
   135
   135
   142
   107
   Other labs: PT / PTT / INR:14.0/24.1/1.2, CK / CKMB /
   Troponin-T:47/2/0.40, ALT / AST:28/41, Alk Phos / T Bili:91/0.3, Lactic
   Acid:0.9 mmol/L, LDH:314 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.8
   mg/dL
   Imaging: CXR: bilateral pulmonary edema R> L
   Microbiology: no new microbiology
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 OBSTRUCTIVE SLEEP APNEA (OSA)
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS
   Assessment and Plan
   This is a 69yo man with history of CABG, atrial fibrillation with
   pacer/defibrillator on coumadin, systolic CHF (most recent echo in [**2188**]
   improved), and DMII who p/w acute onset of R-sided flank pain on
   [**2190-10-30**].   Abdominal CT showed evidence of right perirenal bleed
   possibly from a renal cyst.  Patient transferred to ICU for multiple
   reasons including possible UGIB, hypoxia and possible AMI.
   ## Hypoxia:
   Multifactorial: Klebsiella pneumonia; fluid overload from receiving
   multiple BP (has CHF); abdominal distension.
   -Pulm status improving -  Attempted RISBI, tolerated, but tachypneic.
   Continue to titrate down PEEP, although due to his abdominal girth, may
   require some level of PEEP.
   - treatment for klebsiella PNA and enterococcus UTI complete
   - start Vancomycin empirically for GPCs on sputum GS , should cover for
   enterococcus also
   -  No need to aggressively diurese, pre renal.  Continue dialysis
   ## Fevers/leukocytosis -  Continues to have low grade tmeperatures
   - Sources including CAP, UTI as urine is growing enterococcus.
   Antibiotic regimen as above.
   - repeat pan culture
   - may be reaction to CVVH, given mulitple filter clots.
   ## Atrial Fibrillation with RVR:  patient with irregular wide complex
   tachycardia up to 140
s becoming symptomatic with chest discomfort and
   dyspnea.  Had another episode this morning.  Will continue to rate
   control as needed.   Had episode in setting of hypertension to 200s
   during period of extubation.  Continues to flip in an out of this
   morphology on tele.
   - cycle enzymes.
   - EP saw patient and felt pacer was functioning appropriately
   - control HR with  metoprolol 5 mg IV prn
   ##Mental Status
 will attempt to wean sedation.
   ## Abdominal distension
 likely secondary to ileus: KUB shows lots of
   air + stool in bowel:
   -Attempted lactulose enema yesterday, but CVVH did not tolerate turning
   to side.
   -Continuing aggressive PO bowel regimen
 po narcan
   - reduced NG output
   - nutrition rec low volume elemental diet to start today
   ## Acute / Chronic Renal Failure:  [**3-1**] to ATN from sustained
   hypotension and intraparenchymal bleed on chornic kidney disease.
   Secondly, the rupture of the renal cyst may have further compromised
   renal function; may have reached new baseline.  Creatinine 2.7 from 3.3
   yesterday.   Making some urine:  470ccs over 24 hrs.
   - d/w renal starting HD instead of CVVH.
   - Renally dosing meds, avoiding nephrotoxic agents.
   ## Retroperitoneal Bleed: patient with intraparrenchymal / subcapsular
   bleed of right kidney possibly secondary to cyst rupture in setting of
   high INR from coumadin.  HCTs are currently stable. Patient is now s/p
   4 units PRBC
s and 7 units FFP to help support hemodynamics and reverse
   INR.   Hct tredning down slowly likely a combination of slow blood loss
   and reduced reticulyte count given renal disease.  Rets appropriately.
   No evidence of hemolysis.
   - Transufsed one unit yesterday, Hct stable this mornign
   - daily HCTs.  PRBC transfusion for goal > 25 and FFP transfusion for
   INR goal < 1.9
   - holding ASA and coumadin
   ## Concern for UGIB:  Multiple times coffee-ground material suctioned
   from OG tube.  Hematocrit stable.  Likely secondary to old prior bleed;
   source unclear.   [**Name2 (NI) 133**] continue to follow HCT.
   -Will continue IV PPI
   -maintain active type and screen
   # DMII: Diagnosed seven years ago, most recent HgA1C: 8.5% as of [**Month (only) 435**]
   [**2190**].  Likely because TPN has been initiated, sugars over past 24 hours
   have been 200s - 300s.  Home dose Lantus 44.
   - started on insulin drip for high sugars.
   #Hypothyroidism:  continue levothyroxine sodium 125 mcg
   #Gout: allopurinol 100 mg every other day given poor GFR (renally
   dosed)
   # FEN: Start TF per nutrition, Avoiding IVF, replete electrolytes as
   necessary.
   # Prophylaxis: Pneumoboots, IV PPI
   # Access: d/c L IJ, attempt placement of peripherals,  continue HD line
 d/w Renal placement of non tunneled HD line
   # Code: full
   # Communication: Patient, patient's wife [**Name (NI) **] [**Name (NI) 10486**] [**Telephone/Fax (1) 10487**]
   # Disposition: ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2190-11-8**] 05:53 PM 54 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2190-11-1**] 03:30 PM
   Arterial Line - [**2190-11-1**] 06:00 PM
   Multi Lumen - [**2190-11-2**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-11-09 09:33:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Renal Failure, Afib/RVR
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   ETT tube dislodged overnight during a turn - difficult re-intubation
   24 Hour Events:
 UNPLANNED EXTUBATION (NON-PATIENT INITIATED) - At [**2190-11-8**] 09:05 PM
   Remained on CVVH overnight - HD catheter out of psoition on CXR, so
   CVVH stopped
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2190-11-7**] 10:01 PM
   Ampicillin/Sulbactam (Unasyn) - [**2190-11-8**] 08:15 AM
   Vancomycin - [**2190-11-8**] 03:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 35 mcg/hour
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-11-8**] 08:28 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: Parenteral nutrition
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2190-11-9**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.5
   HR: 90 (74 - 120) bpm
   BP: 157/68(93) {77/43(54) - 187/92(119)} mmHg
   RR: 26 (18 - 29) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 111.1 kg (admission): 115 kg
   Height: 70 Inch
   CVP: 19 (7 - 288)mmHg
   Total In:
                                                                  6,204 mL
                                                                  3,917 mL
   PO:
   TF:
   IVF:
                                                                  4,353 mL
                                                                  3,306 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,905 mL
                                                                  3,171 mL
   Urine:
                                                                    470 mL
                                                                    215 mL
   NG:
                                                                    475 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  2,299 mL
                                                                    746 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 520 (520 - 520) mL
   Vt (Spontaneous): 598 (510 - 640) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 24
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI: 57
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.45/33/153/22/0
   Ve: 12.9 L/min
   PaO2 / FiO2: 255
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffuse)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   199 K/uL
   107 mg/dL
   2.7 mg/dL
   22 mEq/L
   4.1 mEq/L
   44 mg/dL
   106 mEq/L
   139 mEq/L
   26.7 %
   12.1 K/uL
        [image002.jpg]
                            [**2190-11-8**]  10:43 AM
                            [**2190-11-8**]  10:48 AM
                            [**2190-11-8**]  05:28 PM
                            [**2190-11-8**]  05:32 PM
                            [**2190-11-8**]  09:53 PM
                            [**2190-11-8**]  10:02 PM
                            [**2190-11-9**]  01:06 AM
                            [**2190-11-9**]  03:49 AM
                            [**2190-11-9**]  04:01 AM
                            [**2190-11-9**]  05:56 AM
   WBC
   12.1
   Hct
   26.8
   26.7
   Plt
   199
   Cr
   3.3
   2.7
   TropT
   0.40
   TCO2
   22
   23
   22
   22
   23
   24
   Glucose
   135
   135
   142
   107
   Other labs: PT / PTT / INR:14.0/24.1/1.2, CK / CKMB /
   Troponin-T:75/2/0.40, ALT / AST:28/41, Alk Phos / T Bili:91/0.3,
   Differential-Neuts:89.9 %, Lymph:5.1 %, Mono:3.8 %, Eos:0.9 %, Lactic
   Acid:0.9 mmol/L, LDH:314 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 OBSTRUCTIVE SLEEP APNEA (OSA)
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS
   69 yo male with renal failure in the setting of right renal hemorrhage
   in area of previous cyst.  This retroperitoneal bleed has been
   complicated by hypoxemic respiratory failure as well as persistent
   renal failure.
   1)respiratory failure
 On higher FIO2 today, will try to titrate down
   2)Fevers: Has left IJ line site that looks erythematous.  Will pull
   line.  Also needs HD line change due to positional difficulties. On
   vanc/cipro
   3)Renal Failure
Off CVVH - needs HD line address before restarting
   4)Hypotension
 Off neosynephrine
   5)RP bleed: Hct stable
   6)Afib: Cont amio.  prn Lopressor.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2190-11-8**] 05:53 PM 54 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2190-11-1**] 03:30 PM
   Arterial Line - [**2190-11-1**] 06:00 PM
   Multi Lumen - [**2190-11-2**] 04:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2190-11-10 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - prior HD line noted to have pus so removed; tip sent for culture.
   New HD line placed as a right IJ above the old insertion site.
   - Attempted to set CVVH to net negative, but decreased BP (SBP to 60s),
   pressors restarted, 200mL bolus
   - Did not tolerate PSV or decreased PEEP [**3-1**] tachycardia, switched to
   AC and increased PEEP
   - Sputum cx: gram stain negative
   - trop stable 0.39 -> 0.41
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2190-11-7**] 10:01 PM
   Ampicillin/Sulbactam (Unasyn) - [**2190-11-8**] 08:15 AM
   Vancomycin - [**2190-11-8**] 03:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   Insulin - Regular - 6 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2190-11-9**] 11:30 AM
   Fentanyl - [**2190-11-9**] 12:30 PM
   Metoprolol - [**2190-11-9**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-10**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.8
C (98.2
   HR: 85 (83 - 128) bpm
   BP: 102/51(66) {72/41(51) - 158/76(100)} mmHg
   RR: 21 (19 - 31) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 111.1 kg (admission): 115 kg
   Height: 70 Inch
    CVP: 8 (8 - 19)mmHg
   Total In:
                                                                  6,622 mL
                                                                  2,448 mL
   PO:
   TF:
                                                                    107 mL
                                                                    141 mL
   IVF:
                                                                  5,795 mL
                                                                  2,307 mL
   Blood products:
   Total out:
                                                                  5,936 mL
                                                                  2,357 mL
   Urine:
                                                                    470 mL
                                                                     90 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                    686 mL
                                                                     91 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   Vt (Spontaneous): 487 (487 - 598) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 5
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: 7.42/38/84.[**Numeric Identifier 1000**]/24/0
   Ve: 10.1 L/min
   PaO2 / FiO2: 210
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   251 K/uL
   8.1 g/dL
   176 mg/dL
   2.5 mg/dL
   24 mEq/L
   4.6 mEq/L
   37 mg/dL
   107 mEq/L
   140 mEq/L
   25.7 %
   10.4 K/uL
        [image002.jpg]
                            [**2190-11-9**]  05:56 AM
                            [**2190-11-9**]  06:34 AM
                            [**2190-11-9**]  10:47 AM
                            [**2190-11-9**]  02:36 PM
                            [**2190-11-9**]  02:48 PM
                            [**2190-11-9**]  10:00 PM
                            [**2190-11-9**]  10:05 PM
                            [**2190-11-10**]  04:00 AM
                            [**2190-11-10**]  04:07 AM
                            [**2190-11-10**]  05:40 AM
   WBC
   10.4
   Hct
   25.7
   Plt
   251
   Cr
   2.8
   2.5
   TropT
   0.39
   0.41
   TCO2
   24
   24
   25
   26
   25
   25
   Glucose
   91
   176
   Other labs: PT / PTT / INR:14.0/24.1/1.2, CK / CKMB /
   Troponin-T:59/2/0.41, ALT / AST:28/41, Alk Phos / T Bili:91/0.3,
   Differential-Neuts:89.9 %, Lymph:5.1 %, Mono:3.8 %, Eos:0.9 %, Lactic
   Acid:0.9 mmol/L, LDH:314 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.4
   mg/dL
   Fluid analysis / Other labs: Most recent gas:
   7.42    38     84
   Imaging: CXR from [**11-9**]: FINDINGS: The endotracheal tube, nasogastric
   tube, [**Hospital1 **]-chamber pacemaker
   defibrillator leads are in standard positions. A right jugular central
   venous line ends just above the junction of the brachiocephalic vein
   and a left jugular line ends in the left brachiocephalic vein. There is
   improvement in aeration of the left lower lobe, small pleural effusions
   remain present. There is no pneumothorax.
   Microbiology: [**11-1**] sputum - klebsiella PNA
   [**11-4**] sputum - gram + cocci and gram - rods
   [**11-7**] ucx - enterococcus
   [**11-9**] catheter tip cxs pending
   Assessment and Plan
   This is a 69yo man with history of CABG, atrial fibrillation with
   pacer/defibrillator on coumadin, systolic CHF (most recent echo in [**2188**]
   improved), and DMII who p/w acute onset of R-sided flank pain on
   [**2190-10-30**].   Abdominal CT showed evidence of right perirenal bleed
   possibly from a renal cyst.  Patient transferred to ICU for multiple
   reasons including possible UGIB, hypoxia and possible AMI.
   ## Hypoxia:
   Multifactorial: Klebsiella pneumonia; fluid overload from receiving
   multiple BP (has CHF); abdominal distension.
   - treatment for klebsiella PNA and enterococcus UTI complete
   - start Vancomycin empirically for GPCs on sputum GS , should cover for
   enterococcus also (day 3)
   - Continues to be mildly hypervolemic on exam.  Yesterday attempted to
   continue CVVH, but not tolerating as SBP dropped and required pressor
   support. Was +2 L positive yesterday, over length of stay is +1 L
   positive.  Today is currently hypertensive and off pressors; can
   attempt to make -1 L negative again today using CVVH.
   - Barriers to weaning to PSV:  became tachycardic upon switch and
   mildly hypervolemic and mental-status wise awake but periodically
   agitated; otherwise, pneumonia seems to have improved per CXR,
   abdominal distension improved.  To address these barriers and wean,
   will need to improve hypervolemia with CVVH as discussed.  Today can
   try to bring PEEP down from 10 to 8; cautious secondary to abdominal
   distension.  Attempt CVVH; if tolerating fluid coming off, then this
   evening can attempt to switch to PSV.  If becomes tachycardic, give IV
   metoprolol and try to maintain PSV.  For agitation, can try giving
   one-time doses of benzos to try to come down on sedation.
   ## Atrial Fibrillation with RVR:  patient with irregular wide complex
   tachycardia up to 140
s becoming symptomatic with chest discomfort and
   dyspnea.  Had another episode this morning.  Will continue to rate
   control as needed.  Couple days ago had episode in setting of
   hypertension to 200s during period of extubation.  Continues to flip in
   an out of this morphology on tele.
   - Cardiac enzymes stable
   - EP saw patient and felt pacer was functioning appropriately
   - control HR with  metoprolol 5 mg IV prn
   ## Abdominal distension
 likely secondary to ileus: KUB shows lots of
   air + stool in bowel:
   -Continuing aggressive PO bowel regimen
 po narcan
   - reduced NG output
   - nutrition rec low volume elemental diet started yesterday
   ## Acute / Chronic Renal Failure:  [**3-1**] to ATN from sustained
   hypotension and intraparenchymal bleed on chornic kidney disease.
   Secondly, the rupture of the renal cyst may have further compromised
   renal function; may have reached new baseline.  Creatinine continuing
   to trend down, now 2.5.   Again made 470ccs over 24 hrs (20 ccs/hr)
   - Continue CVVH as above
   - Renally dosing meds, avoiding nephrotoxic agents.
   -Touch base w/ renal re: HD vs CVVH
   ## Retroperitoneal Bleed: patient with intraparrenchymal / subcapsular
   bleed of right kidney possibly secondary to cyst rupture in setting of
   high INR from coumadin.  HCTs are currently stable. Patient is now s/p
   4 units PRBC
s and 7 units FFP to help support hemodynamics and reverse
   INR.   Hct tredning down slowly likely a combination of slow blood loss
   and reduced reticulyte count given renal disease.  Rets appropriately.
   No evidence of hemolysis.
   -HCTs continue to be stable
   -daily HCTs.  PRBC transfusion for goal > 25 and FFP transfusion for
   INR goal < 1.9
   -holding ASA and coumadin
   ## Fevers/leukocytosis -  Improved, has been afebrile and WBC has
   trended down.  F/u catheter tip cxs, sputum cxs, bcxs.
   ## Concern for UGIB:  Multiple times coffee-ground material suctioned
   from OG tube.  Hematocrit stable.  Likely secondary to old prior bleed;
   source unclear.   [**Name2 (NI) 133**] continue to follow HCT.
   -Will continue IV PPI
   -maintain active type and screen
   # DMII: Diagnosed seven years ago, most recent HgA1C: 8.5% as of [**Month (only) 435**]
   [**2190**].  Enteral nutrition re-initiated; can stop insulin drip and
   re-start on home lantus today of 44 and cover with HISS; adjust doses
   as necessary.
   #Hypothyroidism:  continue levothyroxine sodium 125 mcg
   #Gout: allopurinol 100 mg every other day given poor GFR (renally
   dosed)
   # FEN: Start TF per nutrition, Avoiding IVF, replete electrolytes as
   necessary.
   # Prophylaxis: Pneumoboots, IV PPI
   # Access: d/c L IJ, peripherals,  HD line replaced on right.
   # Code: full
   # Communication: Patient, patient's wife [**Name (NI) **] [**Name (NI) 10486**] [**Telephone/Fax (1) 10487**]
   # Disposition: ICU
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2190-11-9**] 03:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-11-1**] 06:00 PM
   20 Gauge - [**2190-11-9**] 10:30 AM
   Dialysis Catheter - [**2190-11-9**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-11-10 11:05:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Renal Failure, RP Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   HD line changed yesterday - CVVH restarted
   Back on pressor this AM briefly
   24 Hour Events:
 BLOOD CULTURED - At [**2190-11-9**] 10:00 AM
   2 sets
 SPUTUM CULTURE - At [**2190-11-9**] 10:15 AM
 MULTI LUMEN - STOP [**2190-11-9**] 10:30 AM
 URINE CULTURE - At [**2190-11-9**] 11:15 AM
 DIALYSIS CATHETER - STOP [**2190-11-9**] 11:30 AM
 DIALYSIS CATHETER - START [**2190-11-9**] 12:30 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2190-11-7**] 10:01 PM
   Ampicillin/Sulbactam (Unasyn) - [**2190-11-8**] 08:15 AM
   Vancomycin - [**2190-11-10**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Insulin - Regular - 6 units/hour
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   Other ICU medications:
   Midazolam (Versed) - [**2190-11-9**] 11:30 AM
   Fentanyl - [**2190-11-9**] 12:30 PM
   Metoprolol - [**2190-11-9**] 05:00 PM
   Pantoprazole (Protonix) - [**2190-11-10**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Dialysis
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2190-11-10**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.7
C (98.1
   HR: 102 (85 - 128) bpm
   BP: 124/57(76) {72/41(51) - 158/76(100)} mmHg
   RR: 18 (18 - 31) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Wgt (current): 111.1 kg (admission): 115 kg
   Height: 70 Inch
             Total In:
                                                                  6,622 mL
                                                                  4,190 mL
   PO:
             TF:
                                                                    107 mL
                                                                    268 mL
   IVF:
                                                                  5,795 mL
                                                                  3,922 mL
   Blood products:
   Total out:
                                                                  5,936 mL
                                                                  4,260 mL
   Urine:
                                                                    470 mL
                                                                     90 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                    686 mL
                                                                    -70 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   Vt (Spontaneous): 487 (487 - 554) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 5
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 24 cmH2O
   SpO2: 99%
   ABG: 7.42/41/85.[**Numeric Identifier 126**]/24/1
   Ve: 10.6 L/min
   PaO2 / FiO2: 213
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   throughout, Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   251 K/uL
   176 mg/dL
   2.5 mg/dL
   24 mEq/L
   4.6 mEq/L
   37 mg/dL
   107 mEq/L
   140 mEq/L
   25.7 %
   10.4 K/uL
        [image002.jpg]
                            [**2190-11-9**]  06:34 AM
                            [**2190-11-9**]  10:47 AM
                            [**2190-11-9**]  02:36 PM
                            [**2190-11-9**]  02:48 PM
                            [**2190-11-9**]  10:00 PM
                            [**2190-11-9**]  10:05 PM
                            [**2190-11-10**]  04:00 AM
                            [**2190-11-10**]  04:07 AM
                            [**2190-11-10**]  05:40 AM
                            [**2190-11-10**]  10:04 AM
   WBC
   10.4
   Hct
   25.7
   Plt
   251
   Cr
   2.8
   2.5
   TropT
   0.39
   0.41
   TCO2
   24
   25
   26
   25
   25
   28
   Glucose
   91
   176
   Other labs: PT / PTT / INR:14.0/24.1/1.2, CK / CKMB /
   Troponin-T:59/2/0.41, ALT / AST:28/41, Alk Phos / T Bili:91/0.3,
   Differential-Neuts:89.9 %, Lymph:5.1 %, Mono:3.8 %, Eos:0.9 %, Lactic
   Acid:0.9 mmol/L, LDH:314 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 OBSTRUCTIVE SLEEP APNEA (OSA)
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS
   69 yo male with renal failure in the setting of right renal hemorrhage
   in area of previous cyst.  This retroperitoneal bleed has been
   complicated by hypoxemic respiratory failure as well as persistent
   renal failure.
   1)respiratory failure
 Continue current ventilator settings.  Barriers
   to extubation include mental status - managment of volume also key
   2)Fevers: HD line changed.  L IJ out.  Fever curve trending down.
   Check MVO2.  Cont vanc (day #3)
   3)Renal Failure
Now back on CVVH
   4)Hypotension
 Off neosynephrine
   5)RP bleed: Hct stable
   6)Afib: Cont amio.  prn Lopressor.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2190-11-9**] 03:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-11-1**] 06:00 PM
   20 Gauge - [**2190-11-9**] 10:30 AM
   Dialysis Catheter - [**2190-11-9**] 12:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2190-11-11 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2190-11-11**] 02:42 AM
   Afib 130s, ABP 130/, RR 36, desatted 89%
   -line culture preliminary showed no growth
   -CXR today suggestive of slight continued pulmonary edema
   -PEEP decreased to 8
   -sedation switched to bolused versed although in PM became agitated
   again switched back to light sedation drip
   -12.5 mg metoprolol added TID with improved pressures (130-140/60 and
   HR in low 90s)
   -started back on lantus (50) at bedtime and sliding scale insulin to
   cover
   -getting daily vanc levels
   -o/n became tachycardic to 130s with O2 sats dropping to 89; went back
   up on PEEP to 10 and FiO2 of 50% given decreased sats; lopressor 5 mg
   given IV X 1 given HRs of 130s-140s
   - Fever to 101.7, cultures sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2190-11-8**] 08:15 AM
   Vancomycin - [**2190-11-10**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-11-10**] 08:00 AM
   Midazolam (Versed) - [**2190-11-10**] 08:00 PM
   Fentanyl - [**2190-11-10**] 08:00 PM
   Metoprolol - [**2190-11-11**] 02:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-11**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.7
C (99.8
   HR: 98 (83 - 129) bpm
   BP: 105/51(68) {81/43(56) - 159/74(98)} mmHg
   RR: 20 (18 - 36) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Wgt (current): 111.1 kg (admission): 115 kg
   Height: 70 Inch
             Total In:
                                                                  7,877 mL
                                                                    405 mL
   PO:
             TF:
                                                                    859 mL
                                                                    391 mL
   IVF:
                                                                  7,018 mL
                                                                     14 mL
   Blood products:
   Total out:
                                                                  8,597 mL
                                                                    245 mL
   Urine:
                                                                    335 mL
                                                                     95 mL
   NG:
   Stool:
   150 mL
   Drains:
   Balance:
                                                                   -720 mL
                                                                    160 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   RR (Set): 18
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   Plateau: 25 cmH2O
   SpO2: 99%
   ABG: 7.44/38/115/25/2
   Ve: 11.6 L/min
   PaO2 / FiO2: 230
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   242 K/uL
   8.1 g/dL
   197 mg/dL
   2.7 mg/dL
   25 mEq/L
   4.5 mEq/L
   35 mg/dL
   105 mEq/L
   137 mEq/L
   24.5 %
   9.8 K/uL
        [image002.jpg]
                            [**2190-11-10**]  04:00 AM
                            [**2190-11-10**]  04:07 AM
                            [**2190-11-10**]  05:40 AM
                            [**2190-11-10**]  09:50 AM
                            [**2190-11-10**]  10:04 AM
                            [**2190-11-10**]  03:47 PM
                            [**2190-11-10**]  04:20 PM
                            [**2190-11-10**]  10:56 PM
                            [**2190-11-11**]  02:26 AM
                            [**2190-11-11**]  02:56 AM
   WBC
   10.4
   9.8
   Hct
   25.7
   24.5
   Plt
   251
   242
   Cr
   2.5
   2.4
   2.3
   2.7
   TCO2
   25
   25
   28
   27
   25
   27
   Glucose
   176
   163
   105
   197
   Other labs: PT / PTT / INR:14.4/22.8/1.2, CK / CKMB /
   Troponin-T:59/2/0.41, ALT / AST:28/41, Alk Phos / T Bili:91/0.3,
   Differential-Neuts:89.9 %, Lymph:5.1 %, Mono:3.8 %, Eos:0.9 %, Lactic
   Acid:0.9 mmol/L, LDH:314 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.3
   mg/dL
   Imaging: CXR
   Microbiology: Sputum Gram stain negative, cultures pending
   Urine, Blood cx pending
   Assessment and Plan
   This is a 69yo man with history of CABG, atrial fibrillation with
   pacer/defibrillator on coumadin, systolic CHF (most recent echo in [**2188**]
   improved), and DMII who p/w acute onset of R-sided flank pain on
   [**2190-10-30**].   Abdominal CT showed evidence of right perirenal bleed
   possibly from a renal cyst.  Patient transferred to ICU for multiple
   reasons including possible UGIB, hypoxia and possible AMI.
   ## Hypoxia: Multifactorial: Klebsiella pneumonia; fluid overload from
   receiving multiple BP (has CHF); abdominal distension.
   - treatment for klebsiella PNA and enterococcus UTI complete
   - start Vancomycin empirically for GPCs on sputum GS , should cover for
   enterococcus also (day 4)
   - Continues to be mildly hypervolemic on exam.  On CVVH, net negative
   yesterday, goal today....
   - Barriers to weaning to PSV:  became tachycardic upon switch and
   mildly hypervolemic and mental-status wise awake but periodically
   agitated; otherwise, pneumonia seems to have improved per CXR,
   abdominal distension improved.  To address these barriers and wean,
   will need to improve hypervolemia with CVVH as discussed.  Did not
   tolerate decrease in PEEP to 8.  yesterday, continue to try to wean and
   attempt switch to PSV
   If becomes tachycardic, give IV metoprolol and try to maintain PSV.
   For agitation, can try giving one-time doses of benzos to try to come
   down on sedation.
   ## Atrial Fibrillation with RVR:  patient with irregular wide complex
   tachycardia up to 140
s becoming symptomatic with chest discomfort and
   dyspnea.  Will continue to rate control as needed.  Couple days ago had
   episode in setting of hypertension to 200s during period of
   extubation.  Continues to flip in an out of this morphology on tele.
   12.5 mg metoprolol added TID with improved pressures (130-140/60 and HR
   in low 90s).  Also require some IV metoprolol when HR elevated.
   - Cardiac enzymes stable
   - EP saw patient and felt pacer was functioning appropriately
   - control HR with  metoprolol 5 mg IV prn
   ## Abdominal distension
 likely secondary to ileus: KUB shows lots of
   air + stool in bowel:
   -Continuing aggressive PO bowel regimen
 po narcan
   - reduced NG output
   - nutrition rec low volume elemental diet started yesterday
   ## Acute / Chronic Renal Failure:  [**3-1**] to ATN from sustained
   hypotension and intraparenchymal bleed on chornic kidney disease.
   Secondly, the rupture of the renal cyst may have further compromised
   renal function; may have reached new baseline.  Creatinine stable, now
   2.7.   Again made 335cc over 24 hrs (20 ccs/hr)
   - Continue CVVH as above
   - Renally dosing meds, avoiding nephrotoxic agents.
   -Touch base w/ renal re: HD vs CVVH
   ## Retroperitoneal Bleed: patient with intraparrenchymal / subcapsular
   bleed of right kidney possibly secondary to cyst rupture in setting of
   high INR from coumadin.  HCTs are currently stable. Patient is now s/p
   4 units PRBC
s and 7 units FFP to help support hemodynamics and reverse
   INR.   Hct tredning down slowly likely a combination of slow blood loss
   and reduced reticulyte count given renal disease.  Rets appropriately.
   No evidence of hemolysis.
   -HCTs continue to be stable
   -daily HCTs.  PRBC transfusion for goal > 25 and FFP transfusion for
   INR goal < 1.9
   -holding ASA and coumadin
   ## Fevers/leukocytosis -  Febrilex1 overnight and WBC has trended down.
   -  F/u catheter tip cxs, sputum cxs, bcxs, repeated.
   ## Concern for UGIB:  Multiple times coffee-ground material suctioned
   from OG tube.  Hematocrit stable.  Likely secondary to old prior bleed;
   source unclear.   [**Name2 (NI) 133**] continue to follow HCT.
   -Will continue IV PPI
   -maintain active type and screen
   # DMII: Diagnosed seven years ago, most recent HgA1C: 8.5% as of [**Month (only) 435**]
   [**2190**].  Enteral nutrition re-initiated; can stop insulin drip and
   re-start on home lantus today of 44 and cover with HISS; adjust doses
   as necessary.
   - on Lantus and SSI
   #Hypothyroidism:  continue levothyroxine sodium 125 mcg
   #Gout: allopurinol 100 mg every other day given poor GFR (renally
   dosed)
   # FEN: Start TF per nutrition, Avoiding IVF, replete electrolytes as
   necessary.
   # Prophylaxis: Pneumoboots, IV PPI
   # Access: d/c L IJ, peripherals,  HD line replaced on right.
   # Code: full
   # Communication: Patient, patient's wife [**Name (NI) **] [**Name (NI) 10486**] [**Telephone/Fax (1) 10487**]
   # Disposition: ICU
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2190-11-11**] 12:37 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-11-1**] 06:00 PM
   20 Gauge - [**2190-11-9**] 10:30 AM
   Dialysis Catheter - [**2190-11-9**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-11-11 10:36:00 Physician Attending Progress Note
Chief Complaint: Renal Failure, RP Bleed, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Febrile overnight.  Increased agitation - Versed gtt restarted
   24 Hour Events:
 EKG - At [**2190-11-11**] 02:42 AM
   Afib 130s, ABP 130/, RR 36, desatted 89%
 BLOOD CULTURED - At [**2190-11-11**] 03:00 AM
 SPUTUM CULTURE - At [**2190-11-11**] 04:18 AM
 STOOL CULTURE - At [**2190-11-11**] 05:59 AM
 URINE CULTURE - At [**2190-11-11**] 05:59 AM
 FEVER - 101.7
F - [**2190-11-11**] 02:51 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2190-11-10**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2190-11-10**] 08:00 PM
   Midazolam (Versed) - [**2190-11-10**] 08:00 PM
   Metoprolol - [**2190-11-11**] 02:20 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Dialysis
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2190-11-11**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.2
C (98.9
   HR: 107 (83 - 129) bpm
   BP: 170/76(105) {81/43(56) - 170/76(105)} mmHg
   RR: 30 (19 - 36) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 111.1 kg (admission): 115 kg
   Height: 70 Inch
             Total In:
                                                                  7,877 mL
                                                                    591 mL
   PO:
             TF:
                                                                    859 mL
                                                                    573 mL
   IVF:
                                                                  7,018 mL
                                                                     19 mL
   Blood products:
   Total out:
                                                                  8,597 mL
                                                                    305 mL
   Urine:
                                                                    335 mL
                                                                    155 mL
   NG:
   Stool:
   150 mL
   Drains:
   Balance:
                                                                   -720 mL
                                                                    286 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   RR (Set): 18
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   SpO2: 100%
   ABG: 7.44/38/115/25/2
   Ve: 12.2 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, was
   following exams for nursing this AM
   Labs / Radiology
   8.1 g/dL
   242 K/uL
   197 mg/dL
   2.7 mg/dL
   25 mEq/L
   4.5 mEq/L
   35 mg/dL
   105 mEq/L
   137 mEq/L
   24.5 %
   9.8 K/uL
        [image002.jpg]
                            [**2190-11-10**]  04:00 AM
                            [**2190-11-10**]  04:07 AM
                            [**2190-11-10**]  05:40 AM
                            [**2190-11-10**]  09:50 AM
                            [**2190-11-10**]  10:04 AM
                            [**2190-11-10**]  03:47 PM
                            [**2190-11-10**]  04:20 PM
                            [**2190-11-10**]  10:56 PM
                            [**2190-11-11**]  02:26 AM
                            [**2190-11-11**]  02:56 AM
   WBC
   10.4
   9.8
   Hct
   25.7
   24.5
   Plt
   251
   242
   Cr
   2.5
   2.4
   2.3
   2.7
   TCO2
   25
   25
   28
   27
   25
   27
   Glucose
   176
   163
   105
   197
   Other labs: PT / PTT / INR:14.4/22.8/1.2, CK / CKMB /
   Troponin-T:59/2/0.41, ALT / AST:28/41, Alk Phos / T Bili:91/0.3,
   Differential-Neuts:89.9 %, Lymph:5.1 %, Mono:3.8 %, Eos:0.9 %, Lactic
   Acid:0.9 mmol/L, LDH:314 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 OBSTRUCTIVE SLEEP APNEA (OSA)
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS
   69 yo male with renal failure in the setting of right renal hemorrhage
   in area of previous cyst.  This retroperitoneal bleed has been
   complicated by hypoxemic respiratory failure as well as persistent
   renal failure.
   1)respiratory failure
 Continue current vent managment.  Ongoing fluid
   removal - getting HD today
   2)Fevers: Ongoing fevers.  No new culure data - recultured overnight.
   Will continue vanc and re-institute gram negative coverage
   3)Renal Failure
HD today
   4)Hypotension
 Pressors off currently
   5)RP bleed: Hct stable
   6)Afib: Amio.  prn Lopressor.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2190-11-11**] 12:37 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-11-1**] 06:00 PM
   20 Gauge - [**2190-11-9**] 10:30 AM
   Dialysis Catheter - [**2190-11-9**] 12:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2190-11-12 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pretransplant Workup Started.
   - Liver following, recommended transplant work up.
   - started on NAC
   - charcoal 30- 50gm q12 hrs
   - watch out for seizure with high dose penicillin
   - 120mg/kg divided q 6 hrs.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2190-11-10**] 08:00 AM
   Cefipime - [**2190-11-11**] 08:30 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-11-11**] 08:17 PM
   Fentanyl - [**2190-11-12**] 12:01 AM
   Midazolam (Versed) - [**2190-11-12**] 12:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-12**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.8
   HR: 91 (87 - 109) bpm
   BP: 132/67(89) {82/44(55) - 170/76(105)} mmHg
   RR: 21 (11 - 30) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 111.1 kg (admission): 115 kg
   Height: 70 Inch
             Total In:
                                                                  1,847 mL
                                                                    417 mL
   PO:
             TF:
                                                                  1,320 mL
                                                                    393 mL
   IVF:
                                                                    527 mL
                                                                     24 mL
   Blood products:
   Total out:
                                                                  1,565 mL
                                                                    505 mL
   Urine:
                                                                    415 mL
                                                                    105 mL
   NG:
   Stool:
                                                                    150 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                    282 mL
                                                                    -88 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   Vt (Spontaneous): 386 (386 - 386) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 67
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   Compliance: 30.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/38/102/30/1
   Ve: 15.2 L/min
   PaO2 / FiO2: 204
   Physical Examination
   Cardiovascular: Gen: sedated, intubated, responds to pain and and
   questions
   CV: RRR, nl S1 and S2
   Lungs: clear anteriorly
   Abd: soft, distended, Nt ABS
   Ext: no clubbing, cyanosis, 2+ edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   197 K/uL
   7.1 g/dL
   191 mg/dL
   3.1 mg/dL
   30 mEq/L
   4.1 mEq/L
   38 mg/dL
   108 mEq/L
   145 mEq/L
   22.5 %
   10.1 K/uL
        [image002.jpg]
                            [**2190-11-10**]  09:50 AM
                            [**2190-11-10**]  10:04 AM
                            [**2190-11-10**]  03:47 PM
                            [**2190-11-10**]  04:20 PM
                            [**2190-11-10**]  10:56 PM
                            [**2190-11-11**]  02:26 AM
                            [**2190-11-11**]  02:56 AM
                            [**2190-11-11**]  11:43 AM
                            [**2190-11-11**]  09:19 PM
                            [**2190-11-12**]  03:35 AM
   WBC
   9.8
   9.3
   10.1
   Hct
   24.5
   22.9
   22.5
   Plt
   [**Telephone/Fax (3) 10748**]
   Cr
   2.4
   2.3
   2.7
   2.8
   3.1
   TCO2
   28
   27
   25
   27
   27
   Glucose
   163
   105
   197
   212
   191
   Other labs: PT / PTT / INR:14.5/22.4/1.3, Ca++:7.7 mg/dL, Mg++:2.0
   mg/dL, PO4:3.0 mg/dL
   Imaging: CXR: diffuse pulmonary edema
   Microbiology: cultures negative
   Assessment and Plan
 DELIRIUM / CONFUSION
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 OBSTRUCTIVE SLEEP APNEA (OSA)
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS
   This is a 69yo man with history of CABG, atrial fibrillation with
   pacer/defibrillator on coumadin, systolic CHF (most recent echo in [**2188**]
   improved), and DMII who p/w acute onset of R-sided flank pain on
   [**2190-10-30**].   Abdominal CT showed evidence of right perirenal bleed
   possibly from a renal cyst.  Patient transferred to ICU for multiple
   reasons including possible UGIB, hypoxia and possible [**Date Range **].
   ## Hypoxia: Multifactorial: ?VAP; fluid overload from receiving
   multiple BP (has CHF); abdominal distension.
   - treatment for klebsiella PNA and enterococcus UTI complete
   - on Vancomycin empirically for GPCs on sputum GS , should cover for
   enterococcus, and line infection (day 5)
   - Continues goal negative fluid valance with CVVH
   - Barriers to weaning to PSV:  Becomes agitated on lower levels of
   sedation.  Reduce sedation, continue to remove fluid.  Continue to
   wean.
   - For agitation, can try giving one-time doses of benzos to try to come
   down on sedation.
   ## Atrial Fibrillation with RVR:  patient with irregular wide complex
   tachycardia up to 140
s, previously symptomatic.   Will continue to
   rate control as needed.
   -  12.5 mg metoprolol added TID, uptitrate as needed
   - EP saw patient and felt pacer was functioning appropriately
   - control HR with  metoprolol 5 mg IV prn
   ## Abdominal distension
 likely secondary to ileus: KUB shows lots of
   air + stool in bowel:
   - po narcan to maintain stool output
   - reduced NG output
   - tolerating TF
   ## Acute / Chronic Renal Failure:  [**3-1**] to ATN from sustained
   hypotension and intraparenchymal bleed on chornic kidney disease.
   Secondly, the rupture of the renal cyst may have further compromised
   renal function; may have reached new baseline.  Creatinine stable, now
   2.7.   Again made 335cc over 24 hrs (20 ccs/hr)
   - Renally dosing meds, avoiding nephrotoxic agents.
   - getting  HD
   - hopefully d/c pressors to continue HD
   ## Retroperitoneal Bleed: patient with intraparrenchymal / subcapsular
   bleed of right kidney possibly secondary to cyst rupture in setting of
   high INR from coumadin.  HCTs are currently stable. Patient is now s/p
   4 units PRBC
s and 7 units FFP to help support hemodynamics and reverse
   INR.   Hct tredning down slowly likely a combination of slow blood loss
   and reduced reticulyte count given renal disease.  No evidence of
   hemolysis.
   -HCTs continue to be stable
   -daily HCTs.  PRBC transfusion for goal > 21 and FFP transfusion for
   INR goal < 1.9
   -holding ASA and coumadin
   ## Fevers/leukocytosis -  Afebrile  WBC has trended down.
   -  F/u catheter tip cxs, sputum cxs, bcxs, repeated.
   - Vanc for line infection, Cefepime for broader coverage of VAP.
   ## Concern for UGIB:  Multiple times coffee-ground material suctioned
   from OG tube.  Hematocrit stable.  Likely secondary to old prior bleed;
   source unclear.   [**Name2 (NI) 133**] continue to follow HCT.
   -Will continue IV PPI
   -maintain active type and screen
   # DMII: Diagnosed seven years ago, most recent HgA1C: 8.5% as of [**Month (only) 435**]
   [**2190**].  Enteral nutrition re-initiated; can stop insulin drip and
   re-start on home lantus today of 44 and cover with HISS; adjust doses
   as necessary.
   - on Lantus and SSI
   #Hypothyroidism:  continue levothyroxine sodium 125 mcg
   #Gout: allopurinol 100 mg every other day given poor GFR (renally
   dosed)
   # FEN: TF, Avoiding IVF, replete electrolytes as necessary.
   # Prophylaxis: Pneumoboots, IV PPI
   # Access: peripherals, HD cath on right.
   # Code: full
   # Communication: Patient, patient's wife [**Name (NI) **] [**Name (NI) 10486**] [**Telephone/Fax (1) 10487**]
   # Disposition: ICU
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2190-11-12**] 12:04 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-11-1**] 06:00 PM
   Dialysis Catheter - [**2190-11-9**] 12:30 PM
   22 Gauge - [**2190-11-11**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Please disregard overnight events listed above.
   Correct overnight events:
   - Started Cefepime (instead of Zosyn as pt spiking thru Vanco)
   - Remains on AC, PEEP dropped to 5
   - UOP dropped after HD.  Bolused 250cc.
   - renal rec: f/u CT/MRI of renal cyst to eval for tumor
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 568**], MD
   on:[**2190-11-12**] 10:56 ------

2190-11-12 10:08:00 Physician Attending Progress Note
Chief Complaint: Renal Failure, RP Bleed, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Bolused 250cc NS for decresaed MAPs overnight
   24 Hour Events:
   HD yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2190-11-10**] 08:00 AM
   Cefipime - [**2190-11-11**] 08:30 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-11-12**] 08:20 AM
   Midazolam (Versed) - [**2190-11-12**] 09:40 AM
   Fentanyl - [**2190-11-12**] 09:40 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Dialysis
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2190-11-12**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 106 (87 - 109) bpm
   BP: 144/70(94) {82/44(55) - 148/70(94)} mmHg
   RR: 23 (11 - 26) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 17.9 kg (admission): 115 kg
   Height: 70 Inch
             Total In:
                                                                  1,847 mL
                                                                    646 mL
   PO:
             TF:
                                                                  1,320 mL
                                                                    538 mL
   IVF:
                                                                    527 mL
                                                                     48 mL
   Blood products:
   Total out:
                                                                  1,565 mL
                                                                    560 mL
   Urine:
                                                                    415 mL
                                                                    160 mL
   NG:
   Stool:
                                                                    150 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                    282 mL
                                                                     86 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   Vt (Spontaneous): 386 (386 - 386) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 67
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   Compliance: 30.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/38/102/30/1
   Ve: 13.9 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: throughout)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.1 g/dL
   197 K/uL
   191 mg/dL
   3.1 mg/dL
   30 mEq/L
   4.1 mEq/L
   38 mg/dL
   108 mEq/L
   145 mEq/L
   22.5 %
   10.1 K/uL
        [image002.jpg]
                            [**2190-11-10**]  09:50 AM
                            [**2190-11-10**]  10:04 AM
                            [**2190-11-10**]  03:47 PM
                            [**2190-11-10**]  04:20 PM
                            [**2190-11-10**]  10:56 PM
                            [**2190-11-11**]  02:26 AM
                            [**2190-11-11**]  02:56 AM
                            [**2190-11-11**]  11:43 AM
                            [**2190-11-11**]  09:19 PM
                            [**2190-11-12**]  03:35 AM
   WBC
   9.8
   9.3
   10.1
   Hct
   24.5
   22.9
   22.5
   Plt
   [**Telephone/Fax (3) 10748**]
   Cr
   2.4
   2.3
   2.7
   2.8
   3.1
   TCO2
   28
   27
   25
   27
   27
   Glucose
   163
   105
   197
   212
   191
   Other labs: PT / PTT / INR:14.5/22.4/1.3, CK / CKMB /
   Troponin-T:59/2/0.41, ALT / AST:28/41, Alk Phos / T Bili:91/0.3,
   Differential-Neuts:89.9 %, Lymph:5.1 %, Mono:3.8 %, Eos:0.9 %, Lactic
   Acid:0.9 mmol/L, LDH:314 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 OBSTRUCTIVE SLEEP APNEA (OSA)
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS
   69 yo male with renal failure in the setting of right renal hemorrhage
   in area of previous cyst.  This retroperitoneal bleed has been
   complicated by hypoxemic respiratory failure as well as persistent
   renal failure.
   1)respiratory failure
 Has persistent secretions.  Now on vanc plus
   cefepime.  Recheck sputum culture.
   2)Fevers: Ongoing fevers.  Reculture again.  Antibiotics as above.
   Consider abd imaging if he continues to spike.
   3)Renal Failure
 Next HD per renal
   4)Hypotension
 BP very labile depending on sedation and level of
   agitation
   5)RP bleed: Hct continues to drift down - transfuse 1 unit today
   6)Afib: Amio.  prn Lopressor.
   7)Delerium/Agitation: Will institute Zyprexa
   Given ongoing labile blood pressures, persistent secretions, volume
   overload - will discuss tracheostomy with family.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2190-11-12**] 12:04 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-11-1**] 06:00 PM
   Dialysis Catheter - [**2190-11-9**] 12:30 PM
   18 Gauge - [**2190-11-12**] 08:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2190-11-13 08:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started Cefepime (day 3)  in addition to vancomycin given that
   patient continues to be febrile;
   - PEEP dropped to 5
   - UOP dropped after HD.  Bolused 250cc.
   - renal rec: f/u CT/MRI of renal cyst to eval for tumor
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2190-11-12**] 03:35 PM
   Cefipime - [**2190-11-12**] 08:53 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2190-11-12**] 09:40 AM
   Midazolam (Versed) - [**2190-11-12**] 04:29 PM
   Pantoprazole (Protonix) - [**2190-11-12**] 09:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-13**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.6
C (99.6
   HR: 85 (79 - 109) bpm
   BP: 115/51(72) {85/46(61) - 144/70(94)} mmHg
   RR: 21 (18 - 26) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 117.9 kg (admission): 115 kg
   Height: 70 Inch
             Total In:
                                                                  2,213 mL
                                                                    547 mL
   PO:
             TF:
                                                                  1,320 mL
                                                                    403 mL
   IVF:
                                                                    422 mL
                                                                     84 mL
   Blood products:
                                                                    281 mL
   Total out:
                                                                  2,925 mL
                                                                    125 mL
   Urine:
                                                                    225 mL
                                                                    125 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                   -712 mL
                                                                    422 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 67
   PIP: 37 cmH2O
   Plateau: 22 cmH2O
   Compliance: 30.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/43/137/29/6
   Ve: 12 L/min
   PaO2 / FiO2: 274
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   167 K/uL
   6.9 g/dL
   225 mg/dL
   3.4 mg/dL
   29 mEq/L
   4.0 mEq/L
   41 mg/dL
   107 mEq/L
   145 mEq/L
   21.4 %
   7.2 K/uL
        [image002.jpg]
                            [**2190-11-10**]  03:47 PM
                            [**2190-11-10**]  04:20 PM
                            [**2190-11-10**]  10:56 PM
                            [**2190-11-11**]  02:26 AM
                            [**2190-11-11**]  02:56 AM
                            [**2190-11-11**]  11:43 AM
                            [**2190-11-11**]  09:19 PM
                            [**2190-11-12**]  03:35 AM
                            [**2190-11-12**]  10:41 PM
                            [**2190-11-13**]  03:40 AM
   WBC
   9.8
   9.3
   10.1
   7.2
   Hct
   24.5
   22.9
   22.5
   21.4
   Plt
   [**Telephone/Fax (3) 10798**]67
   Cr
   2.3
   2.7
   2.8
   3.1
   3.4
   TCO2
   27
   25
   27
   27
   32
   Glucose
   105
   197
   212
   191
   225
   Other labs: PT / PTT / INR:15.6/25.3/1.3, CK / CKMB /
   Troponin-T:59/2/0.41, ALT / AST:28/41, Alk Phos / T Bili:91/0.3,
   Differential-Neuts:89.9 %, Lymph:5.1 %, Mono:3.8 %, Eos:0.9 %, Lactic
   Acid:0.9 mmol/L, LDH:314 IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.9
   mg/dL
   Imaging: [**11-12**]
   FINDINGS: Sternotomy. Enlarged cardiac silhouette. AICD triple leads in
   place. There is CHF with alveolar and interstitial edema. Tiny right
   pleural
   effusion also present.
   CONCLUSION: Overall the findings are without significant change from
   yesterday's examination, allowing for technical/radiographic factors.
   Microbiology: has been pan-cultured on [**11-12**], C diff, all pending or
   negative
   [**11-4**]: sputum
   3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI. IN PAIRS AND CHAINS.
   3+  (5-10 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
   [**11-4**]: enterococcus in urine
   [**11-1**]  sputum pan-sensitive klebsiella
   Assessment and Plan
   This is a 69yo man with history of CABG, atrial fibrillation with
   pacer/defibrillator on coumadin, systolic CHF (most recent echo in [**2188**]
   improved), and DMII who p/w acute onset of R-sided flank pain on
   [**2190-10-30**].   Abdominal CT showed evidence of right perirenal bleed
   possibly from a renal cyst.  Patient transferred to ICU for multiple
   reasons including possible UGIB, hypoxia and possible AMI.
   ## Hypoxia: Multifactorial: ?VAP; fluid overload (EF 35%) is overall +1
   L w/ evidence for congestion on CXR; abdominal distension.
   - treatment for klebsiella PNA and enterococcus UTI complete
   - on Vancomycin empirically for GPCs on sputum GS , should cover for
   enterococcus, and line infection (day 6); added cefepime 2 days ago for
   empiric coverage of VAP (on day 3)
   - Continues goal negative fluid balance with HD
   - Barriers to weaning to PSV:  Sedation and pulmonary edema.  Becomes
   agitated on lower levels of sedation.  Was started on olanzapine [**Hospital1 7**] so
   will allow some room to reduce sedation further; continue to remove
   fluid w/ HD w goal of -500 to 1 L negative.
   ## Fevers
   -Added cefepime to vanc for empiric coverage of gram + and gram -.  No
   known source.  Repeat cxs continue to be negative.
   -Obtain AST/ALT, alk phos, tbili (don't have any since [**11-2**])
   -Does have diarrhea: repeat C diff, stool studies, stool culture
   -if LFT abnormalities noted: obtain RUQ US, consider CT of abdomen
   -assess skin for ulcers, cellulitis
   -f/u cultures
   .
   ## Atrial Fibrillation with RVR:  patient with irregular wide complex
   tachycardia up to 140
s, previously symptomatic.   Will continue to
   rate control as needed.
   -  12.5 mg metoprolol added TID, uptitrate as needed
   - EP saw patient and felt pacer was functioning appropriately
   - control HR with  metoprolol 5 mg IV prn
   .
   ## Diarrhea:  Likely secondary to resolving ileus; should also consider
   c-difficile associated disease, viral/bacterial gastroenteritis given
   persistent fevers
   -obtain stool studies, repeat c-diff
   -d/c lactulose
   -f/u cultures
   .
   ## Acute / Chronic Renal Failure:  [**3-1**] to ATN from sustained
   hypotension and intraparenchymal bleed on chornic kidney disease.
   Secondly, the rupture of the renal cyst may have further compromised
   renal function; may have reached new baseline.  Creatinine stable, now
   2.7.   Only making 10 - 20 cc/hr.
   - Renally dosing meds, avoiding nephrotoxic agents.
   - Reduce sedation as this keeps dropping his BP and further compromises
   perfusion to kidneys; keep SBP > 100
   - continue HD
   ## Retroperitoneal Bleed: patient with intraparrenchymal / subcapsular
   bleed of right kidney possibly secondary to cyst rupture in setting of
   high INR from coumadin.  HCTs are currently stable. Patient is now s/p
   4 units PRBC
s and 7 units FFP to help support hemodynamics and reverse
   INR.   Hct tredning down slowly likely a combination of slow blood loss
   and reduced reticulyte count given renal disease.  No evidence of
   hemolysis.
   -HCTs slowly trending down: 25 -> 23 -> 21.
   -Check HCT this PM, if < 21 can tranfuse.  PRBC transfusion for goal >
   21 and FFP transfusion for INR goal < 1.9
   -holding ASA and coumadin
   -Continue IV PPI
   -Maintain active type and screen
   # DMII: Diagnosed seven years ago, most recent HgA1C: 8.5% as of [**Month (only) 435**]
   [**2190**].  Enteral nutrition re-initiated; on lantus 50 at PM and covering
   with SS.
   - Sugars 100 - 200; continue lantus + SS.
   #Hypothyroidism:  continue levothyroxine sodium 125 mcg
   #Gout: allopurinol 100 mg every other day given poor GFR (renally
   dosed)
   # FEN: TF, Avoiding IVF, replete electrolytes as necessary.
   # Prophylaxis: Pneumoboots, IV PPI
   # Access: peripherals, HD cath on right.
   # Code: full
   # Communication: Patient, patient's wife [**Name (NI) **] [**Name (NI) 10486**] [**Telephone/Fax (1) 10487**]
   # Disposition: ICU
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2190-11-13**] 03:07 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-11-1**] 06:00 PM
   Dialysis Catheter - [**2190-11-9**] 12:30 PM
   18 Gauge - [**2190-11-12**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-11-14 06:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -LFTs were normal
   -transfused 1 unit, PM HCT was 24.7 (from 22.4)
   -underwent ultrafiltration today; -3 L removed: repeat gas following UF
   was 7.47, 38, 92.  Vanc not [**Last Name (LF) 10812**], [**First Name3 (LF) **] need vanc trough in AM
   -ventilator weaned to pressor support and repeat gas was unchanged:
   7.47  38  92;  in evening started to tire out, was switched back to
   assist control
   -BPs were stable during the day and did not require an increase in his
   anti-HTN regimen
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2190-11-12**] 03:35 PM
   Cefipime - [**2190-11-13**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-11-13**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-14**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.2
   HR: 72 (68 - 89) bpm
   BP: 114/51(71) {87/43(57) - 167/73(103)} mmHg
   RR: 21 (18 - 31) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Wgt (current): 117.9 kg (admission): 115 kg
   Height: 70 Inch
             Total In:
                                                                  2,141 mL
                                                                    381 mL
   PO:
             TF:
                                                                  1,321 mL
                                                                    348 mL
   IVF:
                                                                    290 mL
                                                                     33 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,583 mL
                                                                    135 mL
   Urine:
                                                                    233 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,442 mL
                                                                    246 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 520 (520 - 520) mL
   Vt (Spontaneous): 400 (400 - 517) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 55
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   Compliance: 37.1 cmH2O/mL
   SpO2: 97%
   ABG: 7.48/35/84.[**Numeric Identifier 1000**]/25/2
   Ve: 12.6 L/min
   PaO2 / FiO2: 210
   Physical Examination
   Cardiovascular: Gen: intubated, sedated
   CV: RRR, Nl S1 and S2
   Lungs: rhonchi anteriorly
   Abd: distended, not tense, ABS
   Ext: trace edema bilaterally
   Neuro: moves all extremeties, responds to questions
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   211 K/uL
   8.4 g/dL
   240 mg/dL
   4.6 mg/dL
   25 mEq/L
   4.3 mEq/L
   63 mg/dL
   106 mEq/L
   144 mEq/L
   25.8 %
   7.9 K/uL
        [image002.jpg]
                            [**2190-11-11**]  09:19 PM
                            [**2190-11-12**]  03:35 AM
                            [**2190-11-12**]  10:41 PM
                            [**2190-11-13**]  03:40 AM
                            [**2190-11-13**]  10:00 AM
                            [**2190-11-13**]  03:33 PM
                            [**2190-11-13**]  05:49 PM
                            [**2190-11-13**]  05:52 PM
                            [**2190-11-14**]  03:17 AM
                            [**2190-11-14**]  04:19 AM
   WBC
   9.3
   10.1
   7.2
   7.6
   7.9
   Hct
   22.9
   22.5
   21.4
   22.4
   24.7
   25.8
   Plt
   156
   197
   167
   203
   211
   Cr
   2.8
   3.1
   3.4
   4.6
   TCO2
   32
   28
   28
   27
   Glucose
   [**Telephone/Fax (3) 10813**]40
   Other labs: PT / PTT / INR:13.8/20.7/1.2, Differential-Neuts:86.0 %,
   Band:0.0 %, Lymph:8.5 %, Mono:4.0 %, Eos:1.1 %, Ca++:7.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR: RLL opacity consistent with edema vs pna
   Microbiology: [**Date range (1) 10787**]- Sputum, Urine, and C diff negative
   Blood cultures show no growth to date.
   Assessment and Plan
 DELIRIUM / CONFUSION
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 OBSTRUCTIVE SLEEP APNEA (OSA)
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS
   This is a 69yo man with history of CABG, atrial fibrillation with
   pacer/defibrillator on coumadin, systolic CHF (most recent echo in [**2188**]
   improved), and DMII who p/w acute onset of R-sided flank pain on
   [**2190-10-30**].   Abdominal CT showed evidence of right perirenal bleed
   possibly from a renal cyst.  Patient transferred to ICU for multiple
   reasons including possible UGIB, hypoxia and possible AMI.
   ## Hypoxia: Multifactorial: ?VAP; fluid overload (EF 35%) is overall +1
   L w/ evidence for congestion on CXR; abdominal distension.
   - treatment for klebsiella PNA and enterococcus UTI complete
   - on Vancomycin empirically for GPCs on sputum GS , should cover for
   enterococcus, and line infection (day 7); added cefepime for empiric
   coverage of VAP (on day 4)
   - continue ultrafiltration
   - Barriers to weaning PSV:  Sedation and pulmonary edema.  Was started
   on olanzapine [**Hospital1 7**] so will allow some room to reduce sedation without
   causing further hypotension; continue to remove fluid w/ UF w goal of
   -2  L negative.
   ## Fevers
   -Added cefepime to vanc for empiric coverage of gram + and gram -.  No
   known source.  Repeat cxs continue to be negative.
   -C diff, stool studies, stool culture, urine and sputum negative
   -f/u cultures
   ## Atrial Fibrillation with RVR:  patient with irregular wide complex
   tachycardia up to 140
s, previously symptomatic.   Will continue to
   rate control as needed.
   - 12.5 mg metoprolol tid
   - EP saw patient and felt pacer was functioning appropriately
   - control HR with  metoprolol 5 mg IV prn
   ## Diarrhea:  Likely secondary to resolving ileus; should also consider
   c-difficile associated disease, viral/bacterial gastroenteritis given
   persistent fevers
   -obtain stool studies, repeat c-diff
   -d/c lactulose
   -f/u cultures
   ## Acute / Chronic Renal Failure:  [**3-1**] to ATN from sustained
   hypotension and intraparenchymal bleed on chornic kidney disease.
   Secondly, the rupture of the renal cyst may have further compromised
   renal function; may have reached new baseline.  Creatinine stable, now
   2.7.   Only making 10 - 20 cc/hr.
   - Renally dosing meds, avoiding nephrotoxic agents.
   - Reduce sedation as this keeps dropping his BP and further compromises
   perfusion to kidneys; keep SBP > 100
   - continue UF
   ## Retroperitoneal Bleed: patient with intraparrenchymal / subcapsular
   bleed of right kidney possibly secondary to cyst rupture in setting of
   high INR from coumadin.  HCTs are currently stable. Patient is now s/p
   4 units PRBC
s and 7 units FFP to help support hemodynamics and reverse
   INR.   Hct tredning down slowly likely a combination of slow blood loss
   and reduced reticulyte count given renal disease.  No evidence of
   hemolysis.
   -HCTs slowly trending down: 25 -> 23 -> 21.
   -Check HCT this PM, if < 21 can tranfuse.  PRBC transfusion for goal >
   21 and FFP transfusion for INR goal < 1.9
   -holding ASA and coumadin
   -Continue IV PPI
   -Maintain active type and screen
   # DMII: Diagnosed seven years ago, most recent HgA1C: 8.5% as of [**Month (only) 435**]
   [**2190**].  Enteral nutrition re-initiated; on lantus 50 at PM and covering
   with SS.
   - Sugars 100 - 200; continue lantus + SS.
   #Hypothyroidism:  continue levothyroxine sodium 125 mcg
   #Gout: allopurinol 100 mg every other day given poor GFR (renally
   dosed)
   # FEN: TF, Avoiding IVF, replete electrolytes as necessary.
   # Prophylaxis: Pneumoboots, IV PPI
   # Access: peripherals, HD cath on right.
   # Code: full
   # Communication: Patient, patient's wife [**Name (NI) **] [**Name (NI) 10486**] [**Telephone/Fax (1) 10487**]
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-11-1**] 06:00 PM
   Dialysis Catheter - [**2190-11-9**] 12:30 PM
   18 Gauge - [**2190-11-12**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-11-15 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - started on Lasix yesterday for diuresis
   - improved respiration still unable to tolerate PSV
   - Pt developed nausea this morning.  Did not respond to Zofran.  TF
   were held tempororarily.  Given IV compazine X1.  Nausea improved.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2190-11-12**] 03:35 PM
   Cefipime - [**2190-11-13**] 08:00 PM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2190-11-14**] 02:32 PM
   Pantoprazole (Protonix) - [**2190-11-14**] 07:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-15**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.2
   HR: 75 (67 - 82) bpm
   BP: 148/63(89) {107/44(61) - 168/75(103)} mmHg
   RR: 23 (17 - 26) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Wgt (current): 117.9 kg (admission): 115 kg
   Height: 70 Inch
             Total In:
                                                                  1,585 mL
                                                                    405 mL
   PO:
             TF:
                                                                  1,320 mL
                                                                    330 mL
   IVF:
                                                                    115 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  1,595 mL
                                                                    595 mL
   Urine:
                                                                  1,595 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -10 mL
                                                                   -190 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 520 (520 - 520) mL
   Vt (Spontaneous): 521 (487 - 521) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: 7.46/35/151/25/2
   Ve: 13.4 L/min
   PaO2 / FiO2: 377
   Physical Examination
   Gen: intubated, NAD
   CV: RRR, Nl S1 and S2
   Lungs: rhonchi anteriorly
   Abd: distended, not tense
   Ext: trace edema
   Neuro: moves all extremeties, follows commands and responds to
   questions
   Labs / Radiology
   312 K/uL
   9.1 g/dL
   230 mg/dL
   5.1 mg/dL
   25 mEq/L
   4.5 mEq/L
   82 mg/dL
   106 mEq/L
   142 mEq/L
   27.5 %
   9.3 K/uL
        [image002.jpg]
                            [**2190-11-13**]  03:40 AM
                            [**2190-11-13**]  10:00 AM
                            [**2190-11-13**]  03:33 PM
                            [**2190-11-13**]  05:49 PM
                            [**2190-11-13**]  05:52 PM
                            [**2190-11-14**]  03:17 AM
                            [**2190-11-14**]  04:19 AM
                            [**2190-11-14**]  04:00 PM
                            [**2190-11-15**]  03:27 AM
                            [**2190-11-15**]  04:12 AM
   WBC
   7.2
   7.6
   7.9
   9.3
   Hct
   21.4
   22.4
   24.7
   25.8
   27.5
   Plt
   167
   203
   211
   312
   Cr
   3.4
   4.6
   4.7
   5.1
   TCO2
   28
   28
   27
   26
   Glucose
   [**Telephone/Fax (3) 10831**]30
   Other labs: PT / PTT / INR:13.9/20.1/1.2, CK / CKMB /
   Troponin-T:59/2/0.41, ALT / AST:[**12-11**], Alk Phos / T Bili:87/0.3,
   Amylase / Lipase:70/73, Differential-Neuts:86.2 %, Band:0.0 %,
   Lymph:8.3 %, Mono:4.2 %, Eos:1.1 %, Lactic Acid:0.9 mmol/L, Albumin:1.8
   g/dL, LDH:312 IU/L, Ca++:8.0 mg/dL, Mg++:2.5 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR: R pleural effusion and pulmonary edema, slightly improved
   from prior
   Microbiology: Blood cx pending
   Urine, Sputum cx negative, c. dif negative.
   Assessment and Plan
   This is a 69yo man with history of CABG, atrial fibrillation with
   pacer/defibrillator on coumadin, systolic CHF and DMII with right
   retroperineal  bleed possibly from a renal cyst.  Patient transferred
   to ICU for multiple reasons including possible UGIB, hypoxia and
   possible AMI.
   ## Hypoxia: Primarily fluid overload given pulmonary congestion on CXR,
   however is overall net negative for LOS, concern for cardiac etiology.
   Last ECHO [**10-31**] with EF 35%.  S/p treatment for klebsiella PNA and
   enterococcus UTI complete, Abx di
   - on Vancomycin empirically for GPCs on sputum GS , should cover for
   enterococcus, and line infection (day 8); added cefepime for empiric
   coverage of VAP (on day 5)
   - continue ultrafiltration
   - Barriers to weaning PSV:  Sedation and pulmonary edema.  Was started
   on olanzapine [**Hospital1 7**] so will allow some room to reduce sedation without
   causing further hypotension; continue to remove fluid w/ UF w goal of
   -2  L negative.
   - ECHO to assess CHF as contributing to volume overload
   ## Fevers: Afebrile x3d (last fever [**11-12**]), WBC stable.
   -Added cefepime to vanc for empiric coverage of gram + and gram -.  No
   known source.  Repeat cxs continue to be negative.
   -C diff, stool studies, stool culture, urine and sputum negative
   -f/u cultures
   ## Acute / Chronic Renal Failure:  [**3-1**] to ATN from sustained
   hypotension and intraparenchymal bleed on chornic kidney disease.
   Secondly, the rupture of the renal cyst may have further compromised
   renal function.  Creatinine increasing, now 5.1, making better urine
   (66cc/hr).  On lasix gtt.
   - Reduce sedation as this keeps dropping his BP and further compromises
   perfusion to kidneys; keep SBP > 100
   - continue UF
   - touch base tomorrow with renal re: continuing HD
   ## Atrial Fibrillation with RVR:  patient with irregular wide complex
   tachycardia up to 140
s, previously symptomatic.   Will continue to
   rate control as needed.
   - 12.5 mg metoprolol tid
   - EP saw patient and felt pacer was functioning appropriately
   - control HR with  metoprolol 5 mg IV prn
   ##. Anemia: s/p retropeitoneal bleed, hct trending down.  S/p
   transfusion [**11-13**] with bump, now Hct 27.5, stable.  No evidence
   hemolysis.  Likely combination of slow blood loss and reduced retic
   from renal disease.
   - holding ASA and coumadin
   - guiac stool
   - Continue IV PPI
   - Maintain active type and screen
   - transfuse if hct <21
   ## Diarrhea:  Likely secondary to resolving ileus; c. dif negative.
   Now no BM x2d.
   -f/u cultures
   -restart lactulose
   ## Retroperitoneal Bleed: patient with intraparrenchymal / subcapsular
   bleed of right kidney possibly secondary to cyst rupture in setting of
   high INR from coumadin.  Hct tredning down slowly likely a combination
   of slow blood loss and reduced reticulyte count given renal disease.
   No evidence of hemolysis.  Given 1U PRBC [**11-13**], now stable at 27.5.
   # DMII: Diagnosed seven years ago, most recent HgA1C: 8.5% as of [**Month (only) 435**]
   [**2190**].  Enteral nutrition re-initiated; on lantus 50 at PM and covering
   with SS.
   - Sugars 100 - 200; continue lantus + SS.
   #Hypothyroidism:  continue levothyroxine sodium 125 mcg
   #Gout: allopurinol 100 mg every other day given poor GFR (renally
   dosed)
   # FEN: TF, Avoiding IVF, replete electrolytes as necessary.
   # Prophylaxis: Pneumoboots, IV PPI
   # Access: peripherals, HD cath on right.
   # Code: full
   # Communication: Patient, patient's wife [**Name (NI) **] [**Name (NI) 10486**] [**Telephone/Fax (1) 10487**]
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-11-1**] 06:00 PM
   Dialysis Catheter - [**2190-11-9**] 12:30 PM
   18 Gauge - [**2190-11-12**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-11-15 10:08:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Renal failure, RP Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Much more awake today and no complaints
   24 Hour Events:
   Lasix gtt down to 4mg per hour due to increase in Cr to 5.1
   Fluid balance even yesterday
   On PSV of [**1-1**] this AM
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2190-11-12**] 03:35 PM
   Cefipime - [**2190-11-13**] 08:00 PM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2190-11-14**] 02:32 PM
   Pantoprazole (Protonix) - [**2190-11-14**] 07:37 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2190-11-15**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 73 (67 - 82) bpm
   BP: 150/61(89) {107/44(61) - 168/75(103)} mmHg
   RR: 22 (17 - 24) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 117.9 kg (admission): 115 kg
   Height: 70 Inch
             Total In:
                                                                  1,591 mL
                                                                    653 mL
   PO:
             TF:
                                                                  1,325 mL
                                                                    549 mL
   IVF:
                                                                    115 mL
                                                                    104 mL
   Blood products:
   Total out:
                                                                  1,595 mL
                                                                    750 mL
   Urine:
                                                                  1,595 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -4 mL
                                                                    -97 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 520 (520 - 520) mL
   Vt (Spontaneous): 461 (461 - 521) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.45/39/123/25/3
   Ve: 9.5 L/min
   PaO2 / FiO2: 308
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, interactive and
   answering yes/no questions
   Labs / Radiology
   9.1 g/dL
   312 K/uL
   230 mg/dL
   5.1 mg/dL
   25 mEq/L
   4.5 mEq/L
   82 mg/dL
   106 mEq/L
   142 mEq/L
   27.5 %
   9.3 K/uL
        [image002.jpg]
                            [**2190-11-13**]  10:00 AM
                            [**2190-11-13**]  03:33 PM
                            [**2190-11-13**]  05:49 PM
                            [**2190-11-13**]  05:52 PM
                            [**2190-11-14**]  03:17 AM
                            [**2190-11-14**]  04:19 AM
                            [**2190-11-14**]  04:00 PM
                            [**2190-11-15**]  03:27 AM
                            [**2190-11-15**]  04:12 AM
                            [**2190-11-15**]  09:04 AM
   WBC
   7.6
   7.9
   9.3
   Hct
   22.4
   24.7
   25.8
   27.5
   Plt
   [**Telephone/Fax (3) 10838**]
   Cr
   4.6
   4.7
   5.1
   TCO2
   28
   28
   27
   26
   28
   Glucose
   [**Telephone/Fax (3) 10839**]
   Other labs: PT / PTT / INR:13.9/20.1/1.2, CK / CKMB /
   Troponin-T:59/2/0.41, ALT / AST:[**12-11**], Alk Phos / T Bili:87/0.3,
   Amylase / Lipase:70/73, Differential-Neuts:86.2 %, Band:0.0 %,
   Lymph:8.3 %, Mono:4.2 %, Eos:1.1 %, Lactic Acid:0.9 mmol/L, Albumin:1.8
   g/dL, LDH:312 IU/L, Ca++:8.0 mg/dL, Mg++:2.5 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 OBSTRUCTIVE SLEEP APNEA (OSA)
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS
   69 yo male with renal failure in the setting of right renal hemorrhage
   in area of previous cyst.  This retroperitoneal bleed has been
   complicated by hypoxemic respiratory failure as well as persistent
   renal failure.
   1)respiratory failure
 Much improved
 on PSV and tolerating well.
   Will recheck TTE to assess potential for pulmonary edema with removal
   of PEEP at extubation.  Of vanc/cefepime.
   2)Fevers: Trending down.
   3)Renal Failure
 Trying to diurese with Lasix gtt.  Cr back up today
   4)RP bleed: Hct stable.
   5)Afib: Amio.  prn Lopressor.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2190-11-14**] 10:54 PM 54.[**Telephone/Fax (5) 10840**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-11-1**] 06:00 PM
   Dialysis Catheter - [**2190-11-9**] 12:30 PM
   18 Gauge - [**2190-11-12**] 08:00 AM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2190-11-16 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - cardiology seen: no new recs
   - renal recs: HD tomorrow
   - ECHO done, results: compared with the prior study overall LV systolic
   function 45-50% improved slightly. The other findings are similar with
   [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 111**] and LV hypertrophy, mild MR, mod pulm artery systolic
   hypertension.
   - PM labs stable, ABGs stable on PSV
   - Insulin SS adjusted
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2190-11-13**] 08:00 PM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-11-15**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-16**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 74 (65 - 80) bpm
   BP: 143/55(81) {98/45(61) - 159/69(93)} mmHg
   RR: 24 (16 - 27) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Wgt (current): 112.5 kg (admission): 115 kg
   Height: 70 Inch
             Total In:
                                                                  1,675 mL
                                                                    197 mL
   PO:
             TF:
                                                                  1,320 mL
                                                                     53 mL
   IVF:
                                                                    295 mL
                                                                     99 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                    800 mL
   Urine:
                                                                  2,075 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -400 mL
                                                                   -603 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 434 (434 - 593) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 49
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.45/38/103/25/2
   Ve: 9.1 L/min
   PaO2 / FiO2: 258
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   316 K/uL
   9.0 g/dL
   150 mg/dL
   5.3 mg/dL
   25 mEq/L
   4.7 mEq/L
   93 mg/dL
   106 mEq/L
   144 mEq/L
   25.8 %
   8.8 K/uL
        [image002.jpg]
                            [**2190-11-14**]  03:17 AM
                            [**2190-11-14**]  04:19 AM
                            [**2190-11-14**]  04:00 PM
                            [**2190-11-15**]  03:27 AM
                            [**2190-11-15**]  04:12 AM
                            [**2190-11-15**]  09:04 AM
                            [**2190-11-15**]  12:07 PM
                            [**2190-11-15**]  03:22 PM
                            [**2190-11-16**]  03:21 AM
                            [**2190-11-16**]  06:21 AM
   WBC
   7.9
   9.3
   8.8
   Hct
   25.8
   27.5
   25.8
   Plt
   [**Telephone/Fax (3) 10865**]
   Cr
   4.6
   4.7
   5.1
   5.1
   5.3
   TCO2
   27
   26
   28
   25
   27
   Glucose
   [**Telephone/Fax (3) 10866**]54
   150
   Other labs: PT / PTT / INR:13.9/20.1/1.2, CK / CKMB /
   Troponin-T:59/2/0.41, ALT / AST:[**12-11**], Alk Phos / T Bili:87/0.3,
   Amylase / Lipase:70/73, Differential-Neuts:86.2 %, Band:0.0 %,
   Lymph:8.3 %, Mono:4.2 %, Eos:1.1 %, Lactic Acid:0.9 mmol/L, Albumin:1.8
   g/dL, LDH:312 IU/L, Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:4.6 mg/dL
   Imaging: Echo:
   The left atrium is dilated. There is mild symmetric left ventricular
   hypertrophy. The left ventricular cavity size is top normal/borderline
   dilated. There is mild regional left ventricular systolic dysfunction
   with hypokinesis of the basal to mid inferior and inferolateral
   hypokinesis. There is no ventricular septal defect. The aortic valve
   leaflets (3) are mildly thickened but aortic stenosis is not present.
   No aortic regurgitation is seen. The mitral valve leaflets are mildly
   thickened. There is no mitral valve prolapse. Mild (1+) mitral
   regurgitation is seen. The tricuspid valve leaflets are mildly
   thickened. There is moderate pulmonary artery systolic hypertension.
   There is no pericardial effusion.
   Compared with the prior study (images reviewed) of [**2190-11-1**], overall
   LV systolic function has improved slightly. The other findings are
   similar.
   CXR:
   Assessment and Plan
   Assessment and Plan
   This is a 69yo man with history of CABG, atrial fibrillation with
   pacer/defibrillator on coumadin, systolic CHF and DMII with right
   retroperineal  bleed possibly from a renal cyst.  Patient transferred
   to ICU for multiple reasons including possible UGIB, hypoxia and
   possible AMI.
   ## Hypoxia: Primarily fluid overload given pulmonary congestion on CXR,
   however is overall net negative for LOS, concern for cardiac etiology,
   however repeat echo reveals relatively improved systolic function  .
   S/p treatment for klebsiella PNA and enterococcus UTI complete.  On
   Fio2 of 40% w/ PS of 5 and Peep of 5.  Barriers to extubation:
   pulmonary edema, largely resolved.
   - given good SBT results, extubation today
   - given resolved pulmonary edema, would stop diuresis: D/c lasix
   ## Acute / Chronic Renal Failure:  [**3-1**] to ATN from sustained
   hypotension and intraparenchymal bleed on chornic kidney disease.
   Secondly, the rupture of the renal cyst may have further compromised
   renal function.  Creatinine stable between 4.5 and 5.3.  Only made 140
   ccs of urine yesterday.
   - keep SBP > 100, avoid nephrotoxicity, renally dose meds
   - f.u renal recs
 likely dialysis tomorrow
   ## Atrial Fibrillation with RVR:  patient with irregular wide complex
   tachycardia up to 140
s, previously symptomatic.   Will continue to
   rate control as needed.
   - 25mg metoprolol tid -> advance to 37. 5 TID for afterload reduction
   esp given extubation and removal of PEEP
    - EP saw patient and felt pacer was functioning appropriately
   - control HR with  metoprolol 5 mg IV prn
   ##. Anemia: s/p retropeitoneal bleed, hct trending down.  S/p
   transfusion [**11-13**] with bump, now Hct 27.5, stable.  No evidence
   hemolysis.  Likely combination of slow blood loss and reduced retic
   from renal disease.
   - holding ASA and coumadin
   - guiac stool
   -Switch from IV to PO PPI
   - Maintain active type and screen
   - transfuse if hct <21
   # DMII: Diagnosed seven years ago, most recent HgA1C: 8.5% as of [**Month (only) 435**]
   [**2190**].  Enteral nutrition re-initiated; on lantus 50 AM and 55 qPM.
   Improved sugars 150 - 200.  Follow sugars today and adjust lantus as
   necessary (AM sugar was actually low ~95)
   #Hypothyroidism:  continue levothyroxine sodium 125 mcg
   #Gout: allopurinol 100 mg every other day given poor GFR (renally
   dosed)
   # FEN: TF, Avoiding IVF, replete electrolytes as necessary.
   # Prophylaxis: Pneumoboots, switch to PO PPI
   # Access: peripherals, HD cath on right.
   # Code: full
   # Communication: Patient, patient's wife [**Name (NI) **] [**Name (NI) 10486**] [**Telephone/Fax (1) 10487**]
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-11-1**] 06:00 PM
   Dialysis Catheter - [**2190-11-9**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-11-16 10:25:00 Physician Attending Progress Note
Chief Complaint: Renal Failure, RP Bleed, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated this AM - comfortable on shovel mask
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2190-11-15**] 10:54 AM - EF improved to 45-50%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2190-11-13**] 08:00 PM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Nitroglycerin - 0.8 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-11-16**] 08:11 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2190-11-16**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (99
   HR: 77 (65 - 79) bpm
   BP: 163/92(92) {98/45(61) - 163/92(92)} mmHg
   RR: 23 (16 - 27) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Wgt (current): 112.5 kg (admission): 115 kg
   Height: 70 Inch
             Total In:
                                                                  1,675 mL
                                                                    277 mL
   PO:
             TF:
                                                                  1,320 mL
                                                                     53 mL
   IVF:
                                                                    295 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                  1,140 mL
   Urine:
                                                                  2,075 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -400 mL
                                                                   -863 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 401 (401 - 593) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 49
   PIP: 14 cmH2O
   SpO2: 95%
   ABG: 7.46/39/102/25/3
   Ve: 9.5 L/min
   PaO2 / FiO2: 255
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, appropriate,
   conversive
   Labs / Radiology
   9.0 g/dL
   316 K/uL
   150 mg/dL
   5.3 mg/dL
   25 mEq/L
   4.7 mEq/L
   93 mg/dL
   106 mEq/L
   144 mEq/L
   25.8 %
   8.8 K/uL
        [image002.jpg]
                            [**2190-11-14**]  04:19 AM
                            [**2190-11-14**]  04:00 PM
                            [**2190-11-15**]  03:27 AM
                            [**2190-11-15**]  04:12 AM
                            [**2190-11-15**]  09:04 AM
                            [**2190-11-15**]  12:07 PM
                            [**2190-11-15**]  03:22 PM
                            [**2190-11-16**]  03:21 AM
                            [**2190-11-16**]  06:21 AM
                            [**2190-11-16**]  07:54 AM
   WBC
   9.3
   8.8
   Hct
   27.5
   25.8
   Plt
   312
   316
   Cr
   4.7
   5.1
   5.1
   5.3
   TCO2
   27
   26
   28
   25
   27
   29
   Glucose
   [**Telephone/Fax (3) 10869**]50
   Other labs: PT / PTT / INR:13.9/20.1/1.2, CK / CKMB /
   Troponin-T:59/2/0.41, ALT / AST:[**12-11**], Alk Phos / T Bili:87/0.3,
   Amylase / Lipase:70/73, Differential-Neuts:86.2 %, Band:0.0 %,
   Lymph:8.3 %, Mono:4.2 %, Eos:1.1 %, Lactic Acid:0.9 mmol/L, Albumin:1.8
   g/dL, LDH:312 IU/L, Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 OBSTRUCTIVE SLEEP APNEA (OSA)
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS
   69 yo male with renal failure in the setting of right renal hemorrhage
   in area of previous cyst.  This retroperitoneal bleed has been
   complicated by hypoxemic respiratory failure as well as persistent
   renal failure.
   1)respiratory failure
 Extubated this AM and doing well.
   2)Fevers: No fever spikes currently.
   3)Renal Failure
 Lasix gtt currently off.  Cr slightly higher today at
   moment - his degree of renal recovery remains to be determined.  Next
   HD per renal.
   4)RP bleed: Hct stable.
   5)CHF: Amio.  BP control with po Lopressor for now.  Will hold off on
   ACE or ARBs for now as degree of renal recovery remains up in the iar
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Comments: readjust
   lantus today
   Lines:
   Arterial Line - [**2190-11-1**] 06:00 PM
   Dialysis Catheter - [**2190-11-9**] 12:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2190-11-17 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2190-11-16**] 08:30 AM
   -extubated in morning; doing well s/p extubation
   -metoprolol increased to 37.5 TID: BPs well controlled systolic 130 -
   155; HR 70 - 80
   - started on imdur 60 daily
   -stopped lasix given net negative and clinically does not seem overtly
   fluid overloaded; urine outputs about 50 cc/hr average;
   -sugars during the day were 100 - 150
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-11-16**] 08:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-17**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.2
C (97.2
   HR: 73 (70 - 84) bpm
   BP: 126/50(72) {113/46(65) - 167/92(98)} mmHg
   RR: 25 (15 - 27) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Wgt (current): 112.5 kg (admission): 115 kg
   Height: 70 Inch
                  Total In:
                                                                    662 mL
                  PO:
                                                                    350 mL
                  TF:
                                                                     53 mL
   IVF:
                                                                    214 mL
   Blood products:
   Total out:
                                                                  2,235 mL
                                                                    310 mL
   Urine:
                                                                  2,235 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,573 mL
                                                                   -310 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 401 (401 - 401) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 0 cmH2O
   FiO2: 40%
   SpO2: 95%
   ABG: 7.46/35/99.[**Numeric Identifier 126**]/26/1
   Ve: 9.5 L/min
   PaO2 / FiO2: 248
   Physical Examination
   Gen: NAD
   CV: RRR. Nl S1 and S2
   Lungs: clear anteriorly
   Abd; distended, not tender, ABS
   Ext: 1+ edema, symmetrical bilaterally.  2+ pulses DP bilaterally
   Labs / Radiology
   351 K/uL
   8.0 g/dL
   106 mg/dL
   5.5 mg/dL
   26 mEq/L
   5.1 mEq/L
   102 mg/dL
   105 mEq/L
   141 mEq/L
   24.4 %
   8.8 K/uL
        [image002.jpg]
                            [**2190-11-15**]  04:12 AM
                            [**2190-11-15**]  09:04 AM
                            [**2190-11-15**]  12:07 PM
                            [**2190-11-15**]  03:22 PM
                            [**2190-11-16**]  03:21 AM
                            [**2190-11-16**]  06:21 AM
                            [**2190-11-16**]  07:54 AM
                            [**2190-11-16**]  10:44 AM
                            [**2190-11-16**]  03:38 PM
                            [**2190-11-17**]  04:16 AM
   WBC
   8.8
   8.8
   Hct
   25.8
   24.4
   Plt
   316
   351
   Cr
   5.1
   5.3
   5.4
   5.5
   TCO2
   26
   28
   25
   27
   29
   26
   Glucose
   154
   150
   102
   106
   Other labs: Ca++:8.0 mg/dL, Mg++:2.5 mg/dL, PO4:5.7 mg/dL
   CXR: no new imaging
   Assessment and Plan
 DELIRIUM / CONFUSION
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 OBSTRUCTIVE SLEEP APNEA (OSA)
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS
   This is a 69yo man with history of CABG, atrial fibrillation with
   pacer/defibrillator on coumadin, systolic CHF and DMII with right
   retroperineal  bleed possibly from a renal cyst.  He has been treated
   for respiratory distress in the setting of volume overload, which has
   now improved.
   ## Hypoxia:  Resolved.  Etiology was fluid overload given pulmonary
   congestion on CXR.  ECHO negative for significant heart failure.  S/p
   treatment for klebsiella PNA and enterococcus UTI complete
   - Pt extubated on nasal canula doing well.
   ## Acute / Chronic Renal Failure:  [**3-1**] to ATN from sustained
   hypotension and intraparenchymal bleed on chornic kidney disease.
   Secondly, the rupture of the renal cyst may have further compromised
   renal function.    Likely will require dialysis.  Renal wants to assess
   renal improvement prior to continuing HD.  Currently HD is not urgent.
   - avoid nephrotoxins, renally dose meds
   - f/u renal recs
   - maintain HD line
   - continue diuresis
   ## Atrial Fibrillation with RVR:  patient with irregular wide complex
   tachycardia up to 140
s, previously symptomatic.   Will continue to
   rate control as needed.
   - continue metoprolol 37. 5 TID for afterload reduction esp given
   extubation and removal of PEEP
    - EP saw patient and felt pacer was functioning appropriately
   - control HR with  metoprolol 5 mg IV prn
   ## Hypertension
 home diovan held given changing renal function.
   Metoprolol uptitrated to improve blood pressure and prevent pulmonary
   edema.  BP currently below 160s.   HR in 70s.  Can tolerate uptitration
   of BB
   - Increase metoprolol to 50 tid.
   ##. Anemia: s/p retropeitoneal bleed, hct has been trending down slowly
   over the course of his hospitalization.  Likely due to phelebotimizaton
   and poor red cell production from renal disease.
   - holding ASA and coumadin
   - PO PPI
   - Maintain active type and screen
   - transfuse if hct <21
   # DMII: Diagnosed seven years ago, most recent HgA1C: 8.5% as of [**Month (only) 435**]
   [**2190**].  Enteral nutrition re-initiated; on lantus 40.  Improved sugars
   well controlled.  Follow sugars today and adjust lantus as necessary.
   #Hypothyroidism:  continue levothyroxine sodium 125 mcg
   #Gout: allopurinol 100 mg every other day given poor GFR (renally
   dosed)
   # FEN: TF, Avoiding IVF, replete electrolytes as necessary.
   # Prophylaxis: Pneumoboots, switch to PO PPI
   # Access: peripherals, HD cath on right.
   # Code: full
   # Communication: Patient, patient's wife [**Name (NI) **] [**Name (NI) 10486**] [**Telephone/Fax (1) 10487**]
   # Disposition: Call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-11-1**] 06:00 PM
   Dialysis Catheter - [**2190-11-9**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-11-17 10:09:00 Physician Attending Progress Note
Chief Complaint: Renal Failure, RP Bleed, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   c/o mild R groin pain this AM
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2190-11-16**] 08:30 AM - Extubated yesterday
   AM and did well yesterday and overnight
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-11-17**] 08:00 AM
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2190-11-17**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 73 (70 - 84) bpm
   BP: 132/62(83) {113/46(65) - 167/68(98)} mmHg
   RR: 25 (15 - 27) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 112.5 kg (admission): 115 kg
   Height: 70 Inch
                  Total In:
                                                                    662 mL
                                                                    480 mL
   PO:
                                                                    350 mL
                                                                    480 mL
   TF:
                                                                     53 mL
   IVF:
                                                                    214 mL
   Blood products:
   Total out:
                                                                  2,235 mL
                                                                    640 mL
   Urine:
                                                                  2,235 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,573 mL
                                                                   -160 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.46/35/99.[**Numeric Identifier 126**]/26/1
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases, Wheezes : scattered)
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive,
   appropriate
   Labs / Radiology
   8.0 g/dL
   351 K/uL
   106 mg/dL
   5.5 mg/dL
   26 mEq/L
   5.1 mEq/L
   102 mg/dL
   105 mEq/L
   141 mEq/L
   24.4 %
   8.8 K/uL
        [image002.jpg]
                            [**2190-11-15**]  04:12 AM
                            [**2190-11-15**]  09:04 AM
                            [**2190-11-15**]  12:07 PM
                            [**2190-11-15**]  03:22 PM
                            [**2190-11-16**]  03:21 AM
                            [**2190-11-16**]  06:21 AM
                            [**2190-11-16**]  07:54 AM
                            [**2190-11-16**]  10:44 AM
                            [**2190-11-16**]  03:38 PM
                            [**2190-11-17**]  04:16 AM
   WBC
   8.8
   8.8
   Hct
   25.8
   24.4
   Plt
   316
   351
   Cr
   5.1
   5.3
   5.4
   5.5
   TCO2
   26
   28
   25
   27
   29
   26
   Glucose
   154
   150
   102
   106
   Other labs: PT / PTT / INR:13.9/20.1/1.2, CK / CKMB /
   Troponin-T:59/2/0.41, ALT / AST:[**12-11**], Alk Phos / T Bili:87/0.3,
   Amylase / Lipase:70/73, Differential-Neuts:86.2 %, Band:0.0 %,
   Lymph:8.3 %, Mono:4.2 %, Eos:1.1 %, Lactic Acid:0.9 mmol/L, Albumin:1.8
   g/dL, LDH:312 IU/L, Ca++:8.0 mg/dL, Mg++:2.5 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 ALTERATION IN NUTRITION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FIBRILLATION (AFIB)
 HYPERTENSION, BENIGN
 OBSTRUCTIVE SLEEP APNEA (OSA)
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS
   69 yo male with renal failure in the setting of right renal hemorrhage
   in area of previous cyst.  This retroperitoneal bleed has been
   complicated by hypoxemic respiratory failure as well as persistent
   renal failure.
   1)respiratory failure
 Has done well over the last 24 hrs
   post-extubation
   2)Renal Failure
 Making adequate urine and electrolytes/acidemia stable
   for now.  No urgent need for HD, renal following.  Will diurese given
   crackles/wheezes on exam
   3)RP bleed: Hct stable.
   4)CHF: Amio.  Cont B-blocker and Imdur
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-11-1**] 06:00 PM
   Dialysis Catheter - [**2190-11-9**] 12:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: